2121-12-24 08:02:00 Physician Resident Progress Note
Chief Complaint: sepsis, anasarca
   24 Hour Events:
   Patient started on CVVHD
   Patient started on levophed to maintain pressures
   Patient on started on [**Last Name (un) 430**]/dapto/cipro due to multiple antibiotic
   resistance in prior wound/urine cultures
   Allergies:
   Penicillins Rash;  Swelling
   Codeine Wheezing; Short
   Heparin Agents Thrombocytopenia
   Levofloxacin Rash;
   Last dose of Antibiotics:
   Meropenem - [**2121-12-24**] 01:30 AM
   Daptomycin - [**2121-12-24**] 02:53 AM
   Ciprofloxacin 400 mg q24, day 1 [**2121-12-24**]
   Flagyl 500 mg q8hr, day 1 [**2121-12-18**]
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Phytonadione 5 mg PO*1
   Aspirin 81 mg daily=
   Dilaudid 2 mg PO Q3H:PRN
   Fixed and sliding insulin scale
   Carbamide Peroxide 6.5% 5-10 DROP AD [**Hospital1 **]
   Silver Sulfadiazine 1% daily to wounds
   Advair (250/50)  1 INH IH [**Hospital1 **]
   Docusate Sodium 100mg PO BID
   Simvastatin 40 mg PO day
   Levothyroxine Sodium 175 mcg PO day
   Pantoprazole 40 mg PO Q24H
   Albuterol MDI 1 PUFF IH Q6H:PRN
   Acetaminophen 325-650mg PO Q6H:PRN
   Other medications:
   Changes to medical and family history: [**2121-11-28**] was patient
s left BKA
   Review of systems is unchanged from admission except as noted below
   Review of systems: right hand pain
   Flowsheet Data as of  [**2121-12-24**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent/min: 36.2
C (97.1
   HR: 83 (66 - 83) bpm
   BP: 118/46(64) {72/28(38) - 125/64(78)} mmHg
   RR: 22 (17 - 23) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
             1,672 mL
   PO:
             TF:
   IVF:
   577 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    296 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,376 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   VBG: 7.46/36/58
   Physical Examination
   Gen: A&O*2
   HEENT: PERRL
   CV [**Last Name (un) **] [**Last Name (un) **]
   Pulm CTA b/l anterior
   Abd: S/NT + BS, obese
   Peripheral Vascular: (Right radial pulse: dopplerable), (Left radial
   pulse: 2+), (Right DP pulse: dopplerable)
   Skin:  right arm: fistula with thrill, black escar 4*8 cm, whole arm
   painful esp finger tips:, sacral decubiti: lrg black escar 11*8cm,
   surrounding area stage II weeping, does not probe beyond soft tissue,
   ischial ulcers
 right and left : stage II
   Neurologic: Responds to: voice, Movement: all 4 limbs, Tone: Not
   assessed
   Labs / Radiology
   173 K/uL
   10.5 g/dL
   81 mg/dL
   2.9 mg/dL
   24 mEq/L
   4.0 mEq/L
   24 mg/dL
   96 mEq/L
   130 mEq/L
   30.9 %
   27.7 K/uL
        [image002.jpg]
                            [**2121-12-24**]  12:33 AM
                            [**2121-12-24**]  06:00 AM
   WBC
   17.1
   27.7
   Hct
   25.9
   30.9
   Plt
   117
   173
   Cr
   3.6
   2.9
   Glucose
   95
   81
   Other labs: PT / PTT / INR:19.7/38.1/1.8, CK / CKMB / Troponin-T:17//,
   ALT / AST:13/25, Alk Phos / T Bili:212/1.1, Differential-Neuts:89.3 %,
   Lymph:4.3 %, Mono:6.0 %, Eos:0.3 %, Lactic Acid:2.1 mmol/L, Albumin:2.0
   g/dL, LDH:247 IU/L, Ca++:6.8 mg/dL, Mg++:1.7 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 5228**] is a 78 year old female with type 2 DM, ESRD on HD, PVD s/p
   BKA, CAD s/p MI, admitted to vascular surgery for right peroeneal
   angiopalsty on [**12-19**] now with signs of sepsis, and anasarca.
   ongoing hypotension, hypothermia, and need for more aggressive volume
   removal with CVVH.
   .
   1.  Hypotension.  Patient noted to be hypotensive throughout five day
   hospital stay, routinely having blood pressures in the 70s and 80s.
   She has been noted to be mentating, but there has been concern that her
   mental status is not her baseline per renal (will need to confirm with
   family).  Patient has warm extremities and multiple possible infectious
   sources (RLE heel ulcer, sacral decub, RUE cellulitis) making septic
   shock a strong possibility.  In addition, patient has a history of
   endocarditis with no evidence of vegetations on TTE, but TEE not
   performed.  Less likely etiology of hypotension is cardiogenic shock
   given the finding of new regional wall motion abnormalities consistent
   with ischemia on echo and elevated cardiac enzymes (Trop 0.2 --> 0.2
   --> 0.15 with flat CK).  Patient appears hypervolemia.  Given rising
   WBC, ongoing hypotension, and history of multiple resistant organisms
   in past (VRE, MRSA, cipro-resistant pseudomonas, will cover broadly
   with dapto/[**Last Name (un) 430**]/flagyl.
   - d/c vanco/cipro and start dapto/[**Last Name (un) 430**]
   - continue flagyl until C. diff is negative given abx exposures
   - Daily EKGs
   - check cortisol
   - levophed to maintain MAPS> 56
   - f/u blood culture and stool culture; CXR
   .
   ESRD on dialysis.  Likely secondary to diabetes and HTN.  Patient has
   been getting dialysis 3xweek, but unable to remove volume due to low
   blood pressures.  Now grossly fluid overloaded (?> 30 kg up from dry
   weight) though not requiring supplemental oxygen.  HD line placed
   today.
   - CVVH with goal of 200-300 cc/hour
   - levophed to maintain MAPs> 65 so CVVH can be tolerated
   - no priming of pump due to h/o HIT
   - renal following
   - CXR to evaluate for interstitial edema/fluid overload
   .
   Sacral decubitus ulcer.  Patient was evaluated by plastics for possible
   debridement, however, they are unwilling to debride the wound in
   setting of plavix use.  They recommend improvement of nutritional
   status, frequent turning, and kinaire bed.
   - nutrition
   - vitamin C and zinc
   - logroll q2hr
   - continue kinair bed
   -sacral ulcer: place duoderm over ulcer that is surrounding the
   eschar, then dry 4X4 guaze and ABD pad over entire ulcer
   -Bilater ischial ulcers: place duoderm and allevyn over ulcers
   -we will continue to follow with you
   .
   Heel ulcer.  Patient is s/p right peroneal angioplasty for righ limb
   ischemia who now has right heel necrosis.  Has been evaluated by
   podiatry.
   - multipodis boots
   - podiatry following
   .
   CAD s/p MI.  Patient noted to have new regional wall motion
   abnormalities consistent with ischemia.  Has had two CABGs in past.
   Troponin mildly elevated in setting of renal failure with flat CK not
   suggestive of an acute event.
   - aspirin, plavix, statin
   - hold BB due to hypotension
   .
   Hyponatremia.  Patient appear hypervolemic.  Hyponatremia has worsened
   during hospital stay though patient is on D51/2NS upon arrival to MICu.
   - free water restrict
   - fluid removal with CVVH
   - d/c D51/2NS
   - follow Na
   - check urine lytes, osms
   .
   Leukocytosis.  WBC has been elevated since admission on [**12-18**], though
   is rising of the past few days.  Patient has had no documented fevers,
   though as been hypothermic several times during hospital stay,
   concerning for infectious etiology.  Numerous possible infectious
   sources include her sacral decub, right heel ulcer.
   - follow WBC
   - continue broad spectrum abx
   - follow fever curve
   - follow up blood cultures, stool culture, CXR
   .
   Anemia.  Baseline Hct between 25 and 32.  Currently 24.8.  Has ESRD,
   history of ACD, and history of chronic GI bleeds due to AVMs and PUD.
   Iron studies on [**12-19**] consistent with anemia of chronic disease.
   - consider initiation of epo, will discuss with renal
   - guiaic stools
   - follow Hct
   .
   Thrombocytopenia.  Thombocytopenia < 100 since [**2115**].  Has history of
   HIT in the past.  Unclear etiology of chronic thrombocytopenia, but
   currently stable.
   - follow plts
   - no heparin due to HIT
   .
   Type 2 DM.  Patient has diabetes.  S/p BKA.
   - insulin SS
   - follow fingersticks
   .
   RUE edema.  RUE negative on [**2121-12-23**].  Concerning for cellulitis,
   particularly in setting of rising WBC and hypotension.
   - continue dapto/[**Last Name (un) 430**]
   - f/u blood cultures
   - follow fever, wbc curve
   .
   Elevated INR.  Elevated INR, though not on anticoagulation.   Likely
   secondary to malnutrition and antibiotic use.
   - vitamin K
   - follow coags
   .
   Hypothyroidism.
   - continue levothyroxine
   .
   Asthma.
   - continue albuterol, atrovent, advair
   .
   Nutrition.  Patient with albumin of 1.6.  Likely with poor PO intake.
   Will need nutrition consult.  Needs improved nutrition for wound
   healing.
   Ppx: home PPI, pneumoboots (no HSQ due to h/o HIT)
   Nutition: diabetic diet
   ICU care
   Will need to address code status with family/HCP due to patient
   mental status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2121-12-24**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-12-25 07:16:00 Physician Resident Progress Note
Chief Complaint: hypetension, pressor dependent
   24 Hour Events:
 1/2 Blood Culture Bottle (+) GNRs
 Stopped CVVHD due to failure of groin line, renal evaluating for
   replacement
 ULTRASOUND - At [**2121-12-24**] 03:43 PM RT AV FISTULA = patent, no fluid
   collection
   Heel X-ray negative for osteo
   Stopped PLAVIX
   Started EPO
   Started per nutrition [**Doctor First Name 470**] Renal [**Doctor First Name 6727**]
   Allergies:
   Penicillins Rash;  Swelling
   Codeine Wheezing; Short
   Heparin Agents Thrombocytopenia
   Levofloxacin Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2121-12-24**] 02:53 AM
   Ciprofloxacin - [**2121-12-24**] 01:00 PM
   Meropenem - [**2121-12-25**] 04:12 AM
hold until resume CVVHD
   Metronidazole - [**2121-12-25**] 06:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Epoetin Alfa 10,000 units 3*/wk
   Aspirin 81 mg daily
   Dilaudid 2 mg PO Q3H:PRN
   Fixed and sliding insulin scale
   Carbamide Peroxide 6.5% 5-10 DROP AD [**Hospital1 **]
   Silver Sulfadiazine 1% daily wounds
   Advair (250/50)  1 INH IH [**Hospital1 **]
   Docusate Sodium 100mg PO BID
   Simvastatin 40 mg PO day
   Levothyroxine 175 mcg PO day
   Pantoprazole 40 mg PO Q24H
   Albuterol MDI 1 PUFF IH Q6H:PRN
   Acetaminophen 325-650mg PO Q6H:PRN
   Other medications:
   Calcium Gluconate 2 gm *1
   Cosyntropin 250 mcg *1 for [**Last Name (un) 45**] stim
   Zinc Sulfate 220 mg daily
   Ascorbic Acid 500 mg [**Hospital1 **]
   Vitamin K 5mg *2 doses
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley, Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2121-12-25**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 80 (79 - 111) bpm
   BP: 90/20(38) {90/20(38) - 144/87(93)} mmHg
   RR: 15 (14 - 28) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 103.5 kg (admission): 112.5 kg
             Total In:
                                                                  4,961 mL
                                                                    577 mL
   PO:
                                                                    150 mL
             TF:
   IVF:
                                                                  3,716 mL
                                                                    577 mL
   Blood products:
   Total out:
                                                                  7,957 mL
                                                                    391 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,996 mL
                                                                    186 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: Overweight / Obese, gross anasarca
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended, Abdominal wall edema,
   hard knot above umbilicus painful unclear if subcutaneous.
   Skin:  right arm: fistula with thrill, black escar 4*8 cm, whole arm
   painful esp finger tips:, sacral decubiti: lrg black escar 11*8cm,
   surrounding area stage II weeping, does not probe beyond soft tissue,
   ischial ulcers
 right and left : stage II
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): person, place (babbles), Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   145 K/uL
   9.3 g/dL
   197 mg/dL
   2.3 mg/dL
   22 mEq/L
   4.2 mEq/L
   17 mg/dL
   97 mEq/L
   131 mEq/L
   27.8 %
   25.7 K/uL
        [image002.jpg] VBG 7.46/33/51  TSH 3.7, free T4 3.4
                            [**2121-12-24**]  12:33 AM
                            [**2121-12-24**]  06:00 AM
                            [**2121-12-24**]  11:44 AM
                            [**2121-12-24**]  05:06 PM
                            [**2121-12-25**]  12:23 AM
   WBC
   17.1
   27.7
   25.7
   Hct
   25.9
   30.9
   27.8
   Plt
   117
   173
   145
   Cr
   3.6
   2.9
   2.7
   2.5
   2.3
   Glucose
   95
   81
   89
   145
   197
   Other labs: PT / PTT / INR:21.8/39.0/2.1, Differential-Neuts:89.7 %,
   Lymph:4.0 %, Mono:5.5 %, Eos:0.4 %, Lactic Acid:4.0 mmol/L, Albumin:2.0
   g/dL, LDH:247 IU/L, Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan:
   Ms. [**Known lastname 5228**] is a 78 year old female with type 2 DM, ESRD on HD, PVD s/p
   BKA, CAD s/p MI, admitted to vascular surgery for right peroneal
   angioplasty on [**12-19**] now with GNR bacteremia, pressor responsive
   hypotension and anasarca.
   1.       Sepsis: leukocytosis, hypotension on pressors. Sources:
   decubiti, right foot, groin line, right arm av fistula, gut
 c. diff.
   TTE negative ( hx endocarditis, if bl cx + will request TEE). history
   of multiple resistant organisms in past (VRE - urine, MRSA- blood,
   cipro-resistant pseudomonas
wound). Plain film right heel
 negative
   for osteomyelitis. Sed rate 55.
   a.       Cont Dapto/[**Last Name (un) 430**]/cipro/flagyl
 of note on CVVHD Meropenem
   dosing is 1 gram q12 hours
   b.       Lactic Acid [**6-1**] be from diasylate, VBG pH 7.46
 recheck
   off CVVHD
   c.        C. diff *3
   d.       Serial blood cultures
   e.       Consult plastics re: source control for sacral decubiti
   plan for intervention as of [**12-24**]
   f.         Trend leukocytosis: mild improvement
   2.       Hypotension.  Hx hypotension with HD, but with persistent
   hypotension prior to transfer to MICU. Hypotension from sepsis vs
   hypoalbuminemia vs hypothyroid vs cardiogenic shock. Tx sepsis as
   above. Cortisol 14.5. Needed to increase pressor support overnight.
   TSH wnl, mildly low free T4 likely related to patient current sepsis.
   a.       Cortisol Stimulation Test to eval for relative adrenal
   insufficiency
   b.       Nutrition recommended supplementation with [**Doctor First Name 470**] [**Doctor First Name **], and
   consideration NG/G if intake does not improve
   c.        Cardiogenic shock: new wall motion defect, preserved EF 55%,
   likely due to hypotension, will monitor daily EKGs
   d.       Continue levophed, goal MAP > 65
   3.       ESRD on dialysis.  [**3-1**] DM, HTN. HD 3*/wk. Gross anasarca, does
   not tolerate HD due to hypotension  No priming of pump due to h/o HIT.
   . L groin HD line for CVVHD failed.
   a.       Renal evaluating replacement of left groin line
   b.       Levophed to maintain MAPs> 65 so CVVH can be tolerated
   c.        Renal following
   d.       Monitor I/O, goal negative
   4.       Sacra/Ischial decubitus ulcers.  Stopped plavix.
   a.       Re-consult plastics re: surgical options/debridement: ask if
   would consider surgery
   b.       Optimize nutrition, on Vitamin C, Zinc
   c.        Logroll Q2HR, on Kinair
   d.       Ulcer care: sacral, place duoderm over ulcer that is
   surrounding the eschar, then dry 4X4 guaze and ABD pad over entire
   ulcer; ischial, place duoderm and allevyn over ulcers
   e.       If stabilizes for transport, consider CT abd/pelvis w/ IV and
   PO contrast to eval abdomen and ulcers
   5.       Heel ulcer.  Patient is s/p right peroneal angioplasty for
   right limb ischemia who now has right heel necrosis.  Has been
   evaluated by podiatry.
   a.       Multipodis boots
   6.       Right Arm Pain/Escar: concern for ischemic injury, ? patency
   of AV fistula. No DVT by prior U/S UE. U/S with Doppler demonstrates
   evidence of AV fistula patency
   a.       Tylenol, Dilaudid prn
   b.       Monitor R radial pulse (currently dopplerable)
   7.       Abdominal Mass
   a.       U/s to see if subcutaneous from insulin or calcinosis given
   ESRD
   8.       Hyponatremia. Cont  free water restriction. Restart CVVHD as
   able.
   a.       Trend lytes
   9.       Anemia. Baseline HCR 25-32. ESRD history of ACD, and history
   of chronic GI bleeds due to AVMs and PUD.  Iron studies on [**12-19**]
   consistent with anemia of chronic disease.
   a.       Start EPO 10,000 unit MWF given on CVVHD
   b.       Trend HCT
 decreased this am attributed to multiple changes
   of CVVHD filters yesterday
   c.        Guaiac stools
   10.    Hypothyroidism
   a.       Continue Levothyroxine
 TSH 3.7 no need to change dose
   currently
   11.    DM, Type 2: Insulin fixed and sliding scale
   12.    CAD s/p CABG *2. New regional wall motion abnormalities
   consistent with ischemia.  W/renal failure trop elevated with flat CK :
   no MI, likely strain from sepsis with decreased troponin clearance.
   a.       Continue Aspirin, statin
   b.       Hold BB due to hypotension
   13.    Thrombocytopenia.  H/o thombocytopenia < 100 since [**2115**].  Has
   history of HIT in the past.
   a.       Continue to monitor
   b.       No heparin
   14.    Asthma: continue albuterol, advair
   ICU Care
   Nutrition: PO diabetic diet, [**First Name5 (NamePattern1) 470**] [**Last Name (NamePattern1) **] TID, nutrition following, vit
   K * 5 mg *2 more days for elevated INR
   Glycemic Control:  Insulin fixed and sliding
   Lines:  Left femoral HD w/ VIP port
   Prophylaxis:
   DVT:  pneumoboots ( no heparin as HIT)
   Stress ulcer:  on home PPI
   VAP:  precautions
   Comments:
   Communication:  patient, [**First Name8 (NamePattern2) 3769**] [**Last Name (NamePattern1) 6709**] (daughter)
   Code status: Full code
   Disposition:  ICU

2121-12-25 08:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - RT AV fistula U/S: patent fistula; no fluid collection
   - Heel x-ray without evidence of osteo
   - Blood cultures
 positive GNR
   - R groin HD line failed
   - Stopped plavix
   - Norepi increased from 0.05 to 0.1 overnight
   Allergies:
   Penicillins
 rash but tolerated Cephalosporin in [**2118**]
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2121-12-24**] 02:53 AM
   Ciprofloxacin - [**2121-12-24**] 01:00 PM
   Meropenem - [**2121-12-25**] 04:12 AM
   Metronidazole - [**2121-12-25**] 06:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-25**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 80 (79 - 111) bpm
   BP: 90/20(38) {90/20(38) - 144/87(93)} mmHg
   RR: 15 (14 - 28) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  4,961 mL
                                                                    599 mL
   PO:
                                                                    150 mL
             TF:
   IVF:
                                                                  3,716 mL
                                                                    599 mL
   Blood products:
   Total out:
                                                                  7,957 mL
                                                                    391 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,996 mL
                                                                    208 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, ET tube
   Cardiovascular: (S1: Normal), (S2: Normal), irreg irreg
   Peripheral Vascular: (Right radial pulse: Dopplerable), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished bases, rest CTA )
   Abdominal: Soft, Non-tender, Bowel sounds present; evidence of 5x6cm
   hard abd mass above umbillicus
   Extremities: Right: trace, Left: BKA
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   9.4 g/dL
   172 K/uL
   180 mg/dL
   2.8 mg/dL
   22 mEq/L
   4.3 mEq/L
   19 mg/dL
   97 mEq/L
   129 mEq/L
   27.5 %
   21.7 K/uL
        [image002.jpg]
                            [**2121-12-24**]  12:33 AM
                            [**2121-12-24**]  06:00 AM
                            [**2121-12-24**]  11:44 AM
                            [**2121-12-24**]  05:06 PM
                            [**2121-12-25**]  12:23 AM
                            [**2121-12-25**]  06:30 AM
   WBC
   17.1
   27.7
   25.7
   21.7
   Hct
   25.9
   30.9
   27.8
   27.5
   Plt
   117
   173
   145
   172
   Cr
   3.6
   2.9
   2.7
   2.5
   2.3
   2.8
   Glucose
   95
   81
   89
   145
   197
   180
   Other labs: PT / PTT / INR:21.8/39.0/2.1, CK / CKMB / Troponin-T:17//,
   ALT / AST:13/25, Alk Phos / T Bili:212/1.1, Differential-Neuts:89.7 %,
   Lymph:4.0 %, Mono:5.5 %, Eos:0.4 %, Lactic Acid:4.0 mmol/L, Albumin:2.0
   g/dL, LDH:247 IU/L, Ca++:8.4 mg/dL, Mg++:1.6 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   78 year old female with type 2 DM, ESRD on HD, PVD s/p BKA, CAD s/p MI,
   admitted to vascular surgery for right peroneal angiopalsty on [**12-19**]
   now with ongoing hypotension, hypotheremia, and need for more
   aggressive volume removal with CVVH.
    >  Hypotension.  The etiology of the hypotension is probably mixed
   including sepsis (as below), cardiac failure with recent MI and poor
   nutritional status (chronically low albumin).  We can consider albumin
   infusions although these are only temporizing.  Borderlin cortisol may
   also suggest AI. TFTs with normal TSH and low T4, but unlikely to be
   playing a role in hypotension. Finally , her chronic anemia is
   compounding her picture and would favor a more aggressive transfusion
   goal of Hct >25
   -          pressor support to allow diuresis
   -          Nutrition per c/s
   -          [**Last Name (un) 45**] stim to eval for AI
   -          transfuse for Hct > 25
   > Sepsis. Patient with GNR in blood.  Numerous possible infectious
   sources include her sacral decub and groin line. Also could have
   concurrent C. diff, so will continue flagyl until comes back. Currently
   covered with Meropenem and cipro for gram neg coverage given hx of DM
   and resistant pseudomonas pathogens, Daptomycin for gram postive given
   hx of VRE. Of note, plastic surgery came by to see about decub ulcer,
   but only recommended topical treatment, nothing invasive given she is
   on plavix. Plavix d/c
   -          follow WBC
   -          follow-up cultures
 2 blood cultures 11/27 pending
   -          continue broad spectrum abx  but would consider d/c Cipro
   -          appreciate ID
s input. GNR in blood is highly resistant and
   only sensitive to ampicillin. Since pt has PCN allergy, agree with
   recommendation to desensitize to Unasyn. Pt received ceftriaxone in
   [**2118**] without complications.
   -          plastic surgery consult to help with management of decub
   ulcer.
   -          Will likely need to have L groin line removed and resited.
   Will keep today given need for central access, elevated INR and
   continued but decreased pressor requirements
   -          levophed to maintain MAPs> 65 so CVVH can be tolerated
   -          Repeat lactic acid of 4
   > ESRD on dialysis.  Likely secondary to diabetes and HTN.  Patient has
   been getting dialysis 3xweek, but unable to remove volume due to low
   blood pressures.  Now grossly fluid overloaded (?> 30 kg up from dry
   weight) though not requiring supplemental oxygen.  HD line will need to
   be replaced today to continue CVVH (cannot do that through fistula)
   -          Replace non-functioning groin line with IJ
   >CAD s/p MI.  Patient noted to have new regional wall motion
   abnormalities consistent with ischemia.  Has had two CABGs in past.
   Troponin mildly elevated in setting of renal failure with flat CK not
   suggestive of an acute event.
   -          aspirin, statin
   -          hold BB due to hypotension
   >Hyponatremia.  Patient appear hypervolemic.  Hyponatremia has worsened
   during hospital stay though patient is on D51/2NS upon arrival to MICU.
   -          free water restrict
   -          fluid removal with CVVH
   > RUE edema.  RUE negative on [**2121-12-23**].  Concerning for cellulitis,
   particularly in setting of rising WBC and hypotension.
   -          continue dapto/[**Last Name (un) 430**]
   -          f/u blood cultures
   -          follow fever, wbc curve
    >Elevated INR.  Elevated INR, though not on anticoagulation.   Likely
   secondary to malnutrition and antibiotic use.
   -          vitamin K
   -          follow coags
    > Anemia: Hct decreased from 30 to 27.5. This is likely due to HD line
   having to be changed 4x with loss of blood each time. Also, pt with
   history of AVMs.
   -          Follow Hct
   -          Epogen
   > Abdominal mass: Unclear etiology, but feels subcutaneous
   -          U/S for further evaluation
   -          Consider CT with PO/IV contrast when stable to eval this and
   sacral decub
   Other issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin
   Lines:
   Dialysis Catheter - [**2121-12-24**] 12:00 AM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  PPI
   VAP:  Elevate HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:  39 minutes

2121-12-26 08:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    78 yo women, DM II, ESRD, PVD, right BKA, admitted to vascular for
   peroneal angioplasty.  Became septic, requiring pressors.
   24 Hour Events:
   - Abdominal U/S
 cystic 4cm subcutaneous mass. F/U with CT in future.
   - Unasyn desensitization
   - Colistin testing for GNR
   - ID consult
   Allergies:
   Penicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2121-12-24**] 02:53 AM
   Meropenem - [**2121-12-25**] 04:12 AM
   Ciprofloxacin - [**2121-12-25**] 01:51 PM
   Ampicillin - [**2121-12-25**] 05:03 PM
   Colistin - [**2121-12-25**] 10:00 PM
   Metronidazole - [**2121-12-26**] 05:34 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-26**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 78 (65 - 93) bpm
   BP: 103/24(43) {78/24(43) - 132/89(98)} mmHg
   RR: 20 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,689 mL
                                                                    632 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  1,329 mL
                                                                    632 mL
   Blood products:
   Total out:
                                                                    391 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,298 mL
                                                                    632 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), irreg, irreg
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, L BKA
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   8.8 g/dL
   141 K/uL
   167 mg/dL
   3.1 mg/dL
   22 mEq/L
   4.1 mEq/L
   24 mg/dL
   96 mEq/L
   129 mEq/L
   25.8 %
   22.3 K/uL
        [image002.jpg]
                            [**2121-12-24**]  12:33 AM
                            [**2121-12-24**]  06:00 AM
                            [**2121-12-24**]  11:44 AM
                            [**2121-12-24**]  05:06 PM
                            [**2121-12-25**]  12:23 AM
                            [**2121-12-25**]  06:30 AM
                            [**2121-12-25**]  03:05 PM
                            [**2121-12-26**]  12:23 AM
   WBC
   17.1
   27.7
   25.7
   21.7
   22.3
   Hct
   25.9
   30.9
   27.8
   27.5
   25.8
   Plt
   117
   173
   145
   172
   141
   Cr
   3.6
   2.9
   2.7
   2.5
   2.3
   2.8
   2.9
   3.1
   Glucose
   95
   81
   89
   145
   197
   180
   211
   167
   Other labs: PT / PTT / INR:21.3/37.3/2.0, CK / CKMB / Troponin-T:25//,
   ALT / AST:13/25, Alk Phos / T Bili:212/1.1, Differential-Neuts:89.4 %,
   Lymph:4.4 %, Mono:5.8 %, Eos:0.3 %, Lactic Acid:3.0 mmol/L, Albumin:2.0
   g/dL, LDH:247 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   78 year old female with type 2 DM, ESRD on HD, PVD s/p BKA, CAD s/p MI,
   admitted to vascular surgery for right peroneal angiopalsty on [**12-19**]
   now with ongoing hypotension, hypothermia, and need for more aggressive
   volume removal with CVVH.
     >  Hypotension.  The etiology of the hypotension is probably mixed
   including sepsis (as below), cardiac failure with recent MI and poor
   nutritional status (chronically low albumin).  Borderline cortisol may
   have suggest AI, but [**Last Name (un) 45**] stim was normal. TFTs with normal TSH and low
   T4, but unlikely to be playing a role in hypotension. Finally , her
   chronic anemia is compounding her picture and would favor a more
   aggressive transfusion goal of Hct >25.
   -          Persistent pressor requirements
   -          Nutrition per c/s
   -          Transfuse for Hct > 25
   -          Will need temporary groin line for additional access given
   pressors/abx
   > Sepsis. Patient with MDR GNR sensitive only to colistin in blood.
   Numerous possible infectious sources include her sacral decub and groin
   line. Per ID, currently covered with Unasyn and Colistin for gram neg
   coverage and Daptomycin for gram postive given hx of VRE. Also could
   have concurrent C. diff, so will continue flagyl until comes back
   negative x3. Of note, plastic surgery came by to see about decub ulcer,
   but only recommended topical treatment, nothing invasive given she is
   on plavix. Plavix d/c
ed [**12-23**].
   -          WBC slightly increased, but downtrending overall
   -          Follow-up cultures
 2 blood cultures 11/27 pending, 1 from
   [**12-26**] pending
   -          Continue broad spectrum abx  per ID
 consider d/c
   colistin now on high dose unasyn (sensitization complete)
   -          D/c flagyl if c.diff x 3 negative
   -          Needs to have left groin line removed
   -          Levophed to maintain MAPs> 55 while on CVVH
   -          Repeat lactic acid decreasing 3.0
   -          Repeat imaging of right arm to ensure no underlying source
   -          Plastic surgery on board to help with management of decub
   ulcer
   -          Plan for CT with IV contrast to address above (and cystic
   mass)
   > ESRD on dialysis.  Likely secondary to diabetes and HTN.  Patient has
   been getting dialysis 3xweek, but unable to remove volume due to low
   blood pressures.  Now grossly fluid overloaded (?> 30 kg up from dry
   weight) though not requiring supplemental oxygen.  HD line will need to
   be replaced today to continue CVVH (cannot do that through fistula)
   -          Replace non-functioning groin line with HD in L IJ per IR
   -          Will restart CVVHD after new HD line
   > CAD s/p MI.  Patient noted to have new regional wall motion
   abnormalities consistent with ischemia.  Has had two CABGs in past.
   Troponin mildly elevated in setting of renal failure with flat CK not
   suggestive of an acute event.
   -          aspirin, statin
   -          hold BB due to hypotension
   >Hyponatremia.  Patient appears hypervolemic.
   -          free water restrict
   -          fluid removal with CVVH
   > RUE edema.  RUE negative on [**2121-12-23**].  Concerning for
   cellulitis/abscess, possibly source of sepsis.
   -          continue dapto
   -          imaging as above
   > Elevated INR.  Elevated INR, though not on anticoagulation.   Likely
   secondary to malnutrition and antibiotic use.
   -          vitamin K IV
   -          follow coags
   -          FFP for procedures
   > Anemia: Hct decreased from 30 to 27.5, now 25.8. Initial decrease
   likely due to HD line having to be changed 4x with loss of blood each
   time. Also, pt with history of AVMs.
   -          Follow Hct
   -          Epogen
   > Abdominal mass: Unclear etiology,
   -          Consider CT with PO/IV contrast
   Other issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2121-12-24**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
 discussed with daughter, who is health care
   proxy
   Disposition :ICU
   Total time spent: 35 minutes, patient is critically ill

2121-12-26 08:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2121-12-25**] 11:35 AM
   abdominal
 STOOL CULTURE - At [**2121-12-25**] 04:42 PM
   - [**12-24**] blood cultures from her groin line growing out nasty GNRs
   sensitive *only* to amp/sulbactam; consulted ID and started ampicillin
   desensitization protocol; also gave her signle dose of Colistin, then
   started high-dose amp/sulbactam
   - levophed weaned down during the day, so we wanted to defer changing
   the line; levophed then turned up overnight, so we'll have to change
   the line today
   - ID also recommending re-imaging her right arm/hand
   - abdominal ultrasound confirmed this ~4cm mass subcutaneous mass,
   cystic with no vascularity
   Unasyn, colistin, daptomycin, flagyl
   Allergies:
   Penicillins: Rash;  Swelling
   Codeine: Wheezing; Short
   Heparin Agents: Thrombocytopenia
   Levofloxacin: Rash
   Last dose of Antibiotics:
   Daptomycin - [**2121-12-24**] 02:53 AM
   Meropenem - [**2121-12-25**] 04:12 AM
   Ciprofloxacin - [**2121-12-25**] 01:51 PM
   Ampicillin - [**2121-12-25**] 05:03 PM
   Colistin - [**2121-12-25**] 10:00 PM
   Metronidazole - [**2121-12-26**] 05:34 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Epoetin Alfa 10,000 units 3*/wk
   Aspirin 81 mg daily
   Dilaudid 2 mg PO Q3H:PRN
   Insulin Fixed and sliding scale
   Carbamide Peroxide 6.5% 5-10 DROP AD [**Hospital1 **]
   Silver Sulfadiazine 1% daily wounds
   Advair (250/50)  1 INH IH [**Hospital1 **]
   Docusate Sodium 100mg PO BID
   Simvastatin 40 mg PO day
   Levothyroxine 175 mcg PO day
   Pantoprazole 40 mg PO Q24H
   Albuterol MDI 1 PUFF IH Q6H:PRN
   Acetaminophen 325-650mg PO Q6H:PRN
   Other medications:
   Zinc Sulfate 220 mg daily
   Ascorbic Acid 500 mg [**Hospital1 **]
   Vitamin K 5mg *1 doses
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-26**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.9
C (96.7
   HR: 79 (65 - 93) bpm
   BP: 115/35(57) {90/24(43) - 132/89(98)} mmHg
   RR: 19 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,689 mL
                                                                    637 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  1,329 mL
                                                                    637 mL
   Blood products:
   Total out:
                                                                    391 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,298 mL
                                                                    637 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: Overweight / Obese, gross anasarca
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended, Abdominal wall edema,
   hard knot above umbilicus painful unclear if subcutaneous.
   Skin:  right arm: fistula with thrill, black escar 4*8 cm, whole arm
   painful esp finger tips:, sacral decubiti: lrg black escar 11*8cm,
   surrounding area stage II weeping, does not probe beyond soft tissue,
   ischial ulcers
 right and left : stage II
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): person, place (babbles), Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   141 K/uL
   8.8 g/dL
   167 mg/dL
   3.1 mg/dL
   22 mEq/L
   4.1 mEq/L
   24 mg/dL
   96 mEq/L
   129 mEq/L
   25.8 %
   22.3 K/uL
        [image002.jpg]
                            [**2121-12-24**]  12:33 AM
                            [**2121-12-24**]  06:00 AM
                            [**2121-12-24**]  11:44 AM
                            [**2121-12-24**]  05:06 PM
                            [**2121-12-25**]  12:23 AM
                            [**2121-12-25**]  06:30 AM
                            [**2121-12-25**]  03:05 PM
                            [**2121-12-26**]  12:23 AM
   WBC
   17.1
   27.7
   25.7
   21.7
   22.3
   Hct
   25.9
   30.9
   27.8
   27.5
   25.8
   Plt
   117
   173
   145
   172
   141
   Cr
   3.6
   2.9
   2.7
   2.5
   2.3
   2.8
   2.9
   3.1
   Glucose
   95
   81
   89
   145
   197
   180
   211
   167
   Other labs: PT / PTT / INR:21.3/37.3/2.0, CK / CKMB / Troponin-T:25//,
   ALT / AST:13/25, Alk Phos / T Bili:212/1.1, Differential-Neuts:89.4 %,
   Lymph:4.4 %, Mono:5.8 %, Eos:0.3 %, Lactic Acid:3.0 mmol/L, Albumin:2.0
   g/dL, LDH:247 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.0 mg/dL
   Blood Culture [**12-24**]
[**2121-12-24**] 12:33 am BLOOD CULTURE      Source: Line-central.
   Blood Culture, Routine (Preliminary):
      GRAM NEGATIVE ROD(S).    PRELIMINARY SENSITIVITY.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             GRAM NEGATIVE ROD(S)
                             |
AMPICILLIN------------       R
AMPICILLIN/SULBACTAM--       S
CEFAZOLIN-------------       R
CEFTAZIDIME-----------       R
CEFTRIAXONE-----------       R
CIPROFLOXACIN---------       R
GENTAMICIN------------       R
MEROPENEM-------------       R
PIPERACILLIN/TAZO-----       R
TOBRAMYCIN------------       R
TRIMETHOPRIM/SULFA----       R
   All other blood cultures to [**12-24**], [**12-25**], [**12-26**] no growth to date
   Assessment and Plan
   Ms. [**Known lastname 5228**] is a 78 year old female with type 2 DM, ESRD on HD, PVD s/p
   BKA, CAD s/p MI, admitted to vascular surgery for right peroneal
   angioplasty on [**12-19**] now with GNR bacteremia, pressor responsive
   hypotension and anasarca.
   1.       Gram Negative Rod Sepsis: leukocytosis, hypotension on
   pressors. Most likely source left groin line. Also need to eval
   decubiti. Right foot with x-ray negative for osteomyelitis and stage II
   heel ulcer. AV fistula with patent flow by ultrasound. C. diff negative
   *2. TTE negative ( hx endocarditis, if bl cx + will request TEE).
   History of multiple resistant organisms in past (VRE - urine, MRSA-
   blood, cipro-resistant pseudomonas
wound). Sed rate 55. Lactic Acid
   from 4 ->3.
   a.       Cont Dapto/Flagyl
   b.       Started Unasyn, after successful desensitization and will
   continue
   c.        Appreciate ID recs, will stop colistin
   d.       Remove Left groin line, after get HD access LIJ and abx access
   R groin
   e.       Image abdomen and decubiti for abscess by CT with iv contrast
   f.         C. diff *3
   g.       Serial blood cultures
   h.       Consult plastics re: source control for sacral decubiti
   plan for intervention as of [**12-24**]
   i.         Trend leukocytosis: stabilized, but improved from prior
   2.       Hypotension.  Hx hypotension with HD, but with persistent
   hypotension prior to transfer to MICU. Hypotension from sepsis vs
   hypoalbuminemia vs hypothyroid vs cardiogenic shock. Tx sepsis as
   above. Cortisol 14.5, stemmed to over 20. TSH wnl, mildly low T4 likely
   related to patient current sepsis. Cardiogenic shock unlikely new wall
   motion defect, with preserved EF 55%
   a.       Nutrition recommended supplementation with [**Doctor First Name 470**] [**Doctor First Name **], and
   consideration NG/G if intake does not improve
   b.       Continue levophed, goal MAP > 55
   c.        Patient fluid responsive -- intubated
   3.       ESRD on dialysis.  [**3-1**] DM, HTN. HD 3*/wk. Gross anasarca, does
   not tolerate HD due to hypotension  No priming of pump due to h/o HIT.
   . L groin HD line for CVVHD failed.
   a.       IR replacement and resighting of left groin line
   b.       Levophed to maintain MAPs> 55 (>65 if reinitiate CVVHD after
   IR line replacement)
   c.        Appreciate renal recommendations
   d.       Monitor I/O, goal negative
   4.       Sacra/Ischial decubitus ulcers.  Stopped plavix.
   a.       Re-consulted plastics re: surgical options/debridement: ask if
   would consider surgery
   b.       Optimize nutrition, on Vitamin C, Zinc
   c.        Logroll Q2HR, on Kinair
   d.       Ulcer care: per wound care recs
   e.       CT abd/pelvis w/ IV and PO contrast to eval abdomen and ulcers
   - today
   5.       Heel ulcer.  Patient is s/p right peroneal angioplasty for
   right limb ischemia who now has right heel necrosis.  Has been
   evaluated by podiatry.
   a.       Multipodis boots
   6.       Right Arm Pain/Escar: concern for ischemic injury, ? patency
   of AV fistula. No DVT by prior U/S UE. U/S with Doppler demonstrates
   evidence of AV fistula patency U/S lower are without discrete fluid
   collection but evidence of overall anasarca
   a.       Tylenol, Dilaudid prn
   b.       Monitor R radial pulse (currently dopplerable)
   7.       Abdominal Mass: U/S shows subcutaneous mass
   a.       CT abd/pelvis planned for today will characterize mass
   8.       Hyponatremia. Cont  free water restriction. Restart CVVHD as
   able.
   a.       Trend lytes
   9.       Anemia. Baseline HCR 25-32. ESRD history of ACD, and history
   of chronic GI bleeds due to AVMs and PUD.  Iron studies on [**12-19**]
   consistent with anemia of chronic disease.
   a.       Start EPO 10,000 unit MWF given on CVVHD
   b.       Trend HCT
   c.        Guaiac stools
   10.    Hypothyroidism
   a.       Continue Levothyroxine
 TSH 3.7 no need to change dose
   currently
   11.    DM, Type 2: Insulin fixed and sliding scale
   12.    CAD s/p CABG *2. New regional wall motion abnormalities
   consistent with ischemia.  W/renal failure trop elevated with flat CK :
   no MI, likely strain from sepsis with decreased troponin clearance.
   a.       Continue Aspirin, statin
   b.       Hold BB due to hypotension
   13.    Thrombocytopenia.  H/o thombocytopenia < 100 since [**2115**].  Has
   history of HIT in the past.
   a.       Continue to monitor
   b.       No heparin
   14.    Asthma: continue albuterol, advair
   ICU Care
   Nutrition: PO diabetic diet, [**First Name5 (NamePattern1) 470**] [**Last Name (NamePattern1) **] TID, nutrition following, vit
   K * 5 mg *1 more days for elevated INR
   Glycemic Control:  Insulin fixed and sliding
   Lines:  Left Femoral Groin with VIP port
   Prophylaxis:
   DVT:  pneumoboots ( no heparin as HIT)
   Stress ulcer:  on home PPI
   VAP:  precautions
   Comments:
   Communication:  patient, [**First Name8 (NamePattern2) 3769**] [**Last Name (NamePattern1) 6709**] (daughter)  - health care
   proxy. Note on family meeting held [**2121-12-26**] in chart. Patient visited
   by Hospital ministry per family request, patient is Protestant.
   Code status: DNR/DNI
   Disposition:  ICU

2121-12-27 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2121-12-26**] 05:38 PM
 DIALYSIS CATHETER - START [**2121-12-26**] 05:39 PM
   placed in IR
   Left Femoral Dialysis Catheter REMOVED
   Right upper extremity ultrasound evaluated forearm and found no
   evidence of abscess
   Unasyn dosing increased as patient started on CVVHD
   Required increasing pressor support overnight
   Allergies:
   Penicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2121-12-25**] 04:12 AM
   Ciprofloxacin - [**2121-12-25**] 01:51 PM
   Ampicillin - [**2121-12-25**] 05:03 PM
   Colistin - [**2121-12-25**] 10:00 PM
   Metronidazole - [**2121-12-26**] 05:34 AM
   Ampicillin/Sulbactam (Unasyn) - [**2121-12-26**] 07:24 PM
   Daptomycin - [**2121-12-26**] 07:24 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.16 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2121-12-27**] 01:36 AM
   Epoetin Alfa 10,000 units 3*/wk
   Aspirin 81 mg daily
   Dilaudid 2 mg PO Q3H:PRN
   Insulin Fixed and sliding scale
   Carbamide Peroxide 6.5% 5-10 DROP AD [**Hospital1 **]
   Silver Sulfadiazine 1% daily wounds
   Advair (250/50)  1 INH IH [**Hospital1 **]
   Docusate Sodium 100mg PO BID
   Simvastatin 40 mg PO day
   Levothyroxine 175 mcg PO day
   Pantoprazole 40 mg PO Q24H
   Albuterol MDI 1 PUFF IH Q6H:PRN
   Acetaminophen 325-650mg PO Q6H:PRN
   Other medications:
   Zinc Sulfate 220 mg daily
   Ascorbic Acid 500 mg [**Hospital1 **]
   Vitamin K 5mg *1 doses
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2121-12-27**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 81 (64 - 86) bpm
   BP: 104/46(61) {64/25(33) - 128/74(79)} mmHg
   RR: 22 (9 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,664 mL
                                                                  2,558 mL
   PO:
                                                                    360 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,766 mL
                                                                  2,438 mL
   Blood products:
                                                                    538 mL
   Total out:
                                                                    720 mL
                                                                  1,286 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,944 mL
                                                                  1,272 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Obese, mid epigastric firm mass
   Extremities: Right: 2+, Left: 2+, s/p L BKA, right arm AV fistula with
   thrill. Sacral, ischial decubiti.
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Painful stimuli,
   Oriented (to): unable to assess due to decreased mental alertness
   today, Movement: Withdraws to pain, Tone: Not assessed
   Labs / Radiology
   128 K/uL
   8.6 g/dL
   83 mg/dL
   3.0 mg/dL
   23 mEq/L
   4.3 mEq/L
   24 mg/dL
   97 mEq/L
   130 mEq/L
   25.4 %
   27.1 K/uL
        [image002.jpg] BG 79
229 (mostly <150)
                            [**2121-12-24**]  06:00 AM
                            [**2121-12-24**]  11:44 AM
                            [**2121-12-24**]  05:06 PM
                            [**2121-12-25**]  12:23 AM
                            [**2121-12-25**]  06:30 AM
                            [**2121-12-25**]  03:05 PM
                            [**2121-12-26**]  12:23 AM
                            [**2121-12-26**]  05:50 PM
                            [**2121-12-27**]  12:00 AM
                            [**2121-12-27**]  02:18 AM
   WBC
   27.7
   25.7
   21.7
   22.3
   19.5
   27.1
   Hct
   30.9
   27.8
   27.5
   25.8
   25.9
   25.4
   Plt
   173
   145
   172
   141
   127
   128
   Cr
   2.9
   2.7
   2.5
   2.3
   2.8
   2.9
   3.1
   3.3
   3.0
   Glucose
   81
   89
   145
   197
   180
   211
   167
   88
   96
   83
   Other labs: PT / PTT / INR:18.3/34.7/1.7, CK / CKMB / Troponin-T:25//,
   ALT / AST:13/25, Alk Phos / T Bili:212/1.1, Differential-Neuts:89.4 %,
   Lymph:4.4 %, Mono:5.8 %, Eos:0.3 %, Lactic Acid:3.0 mmol/L, Albumin:2.0
   g/dL, LDH:247 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Acinetobacter species
 blood cultures [**2121-12-24**]
   Assessment and Plan
   Ms. [**Known lastname 5228**] is a 78 year old female with type 2 DM, ESRD on HD, PVD s/p
   BKA, CAD s/p MI, admitted to vascular surgery for right peroneal
   angioplasty on [**12-19**] now with GNR bacteremia, pressor responsive
   hypotension and anasarca.
   1.       Sepsis: leukocytosis, hypotension on pressors. Decompensated
   since stopping MEROPENEM [**12-24**] and need to consider acinetobacter may
   not be the organism. Most likely source left groin line and that has
   been removed [**2121-12-26**]. Acinetobactor if real would more likely be from
   decubiti, awaiting final read on CT abdomen. Right foot with x-ray
   negative for osteomyelitis and stage II heel ulcer. AV fistula with
   patent flow by ultrasound. C. diff negative *2. TTE negative ( hx
   endocarditis, if bl cx + will request TEE). History of multiple
   resistant organisms in past (VRE - urine, MRSA- blood, cipro-resistant
   pseudomonas
wound). Sed rate 55. Lactic Acid from 4 ->3.
   a.       Cont Dapto/Flagyl, ADD Meropenem 1mg q12 hours given on CVVHD.
   b.       Increase Unasyn (of note patient was desensitized to this drug
   before it could be used)
   c.        Appreciate ID recs, will stop colistin
   d.       Access now with dialysis L IJ and R femoral
   e.       F/U abdomen and decubiti for abscess by CT with iv contrast
   f.         C. diff *3 negative, continue Flagyl for intra-abdominal
   process
   g.       Serial blood cultures
   h.       Consult plastics re: source control for sacral decubiti
   plan for intervention as of [**12-24**]
   i.         Trend leukocytosis: worse today
   2.       Hypotension.  Hx hypotension with HD, but with persistent
   hypotension prior to transfer to MICU. Hypotension from sepsis vs
   hypoalbuminemia vs hypothyroid vs cardiogenic shock. Tx sepsis as
   above. Cortisol 14.5, stemmed to over 20. TSH wnl, mildly low T4 likely
   related to patient current sepsis. Cardiogenic shock unlikely new wall
   motion defect, with preserved EF 55%
   a.       Nutrition recommended supplementation with [**Doctor First Name 470**] [**Doctor First Name **], and
   consideration NG/G if intake does not improve
   b.       Continue levophed, decrease goal MAP > 55 given baseline
   hypotensive
   c.        Patient fluid responsive -- intubated
   3.       ESRD on dialysis.  [**3-1**] DM, HTN. HD 3*/wk. Gross anasarca, does
   not tolerate HD due to hypotension  No priming of pump due to h/o HIT.
   . L groin HD line for CVVHD failed and removed [**2121-12-26**].
   a.       Levophed to maintain MAPs> 55
   b.       Appreciate renal recommendations
   c.        Monitor I/O, goal negative
   4.       Sacra/Ischial decubitus ulcers.  Stopped plavix. Maintain
   flagyl given ulcers pending read on abd CT re: abdominal pathology for
   infection
   a.       Re-consulted plastics re: surgical options/debridement: ask if
   would consider surgery
   b.       Optimize nutrition, on Vitamin C, Zinc
   c.        Logroll Q2HR, on Kinair
   d.       Ulcer care: per wound care recs
   e.       CT abd/pelvis w/ IV and PO contrast to eval abdomen and ulcers
 F/U final recs
   5.       Heel ulcer.  Patient is s/p right peroneal angioplasty for
   right limb ischemia who now has right heel necrosis.  Has been
   evaluated by podiatry.
   a.       Multipodis boots
   6.       Right Arm Pain/Escar: concern for ischemic injury, ? patency
   of AV fistula. No DVT by prior U/S UE. U/S with Doppler demonstrates
   evidence of AV fistula patency U/S lower are without discrete fluid
   collection but evidence of overall anasarca
   a.       Tylenol, Dilaudid prn
   b.       Monitor R radial pulse (currently dopplerable)
   7.       Abdominal Mass: U/S shows subcutaneous mass
   a.       CT abd/pelvis F/U read
   8.       Hyponatremia. Cont  free water restriction. Restart CVVHD as
   able.
   a.       Trend lytes
   9.       Anemia. Baseline HCR 25-32. ESRD history of ACD, and history
   of chronic GI bleeds due to AVMs and PUD.  Iron studies on [**12-19**]
   consistent with anemia of chronic disease.
   a.       Start EPO 10,000 unit MWF given on CVVHD
   b.       Trend HCT
   c.        Guaiac stools
   10.    Hypothyroidism
   a.       Continue Levothyroxine
 TSH 3.7 no need to change dose
   currently
   11.    DM, Type 2: Insulin fixed and sliding scale
 under good control
   12.    CAD s/p CABG *2. New regional wall motion abnormalities
   consistent with ischemia.  W/renal failure trop elevated with flat CK :
   no MI, likely strain from sepsis with decreased troponin clearance.
   a.       Continue Aspirin, statin
   b.       Hold BB due to hypotension
   13.    Thrombocytopenia.  H/o thombocytopenia < 100 since [**2115**].  Has
   history of HIT in the past.
   a.       Continue to monitor
   b.       No heparin
   14.    Asthma: continue albuterol, advair
   ICU Care
   Nutrition: Po diabetic diet, [**First Name5 (NamePattern1) 470**] [**Last Name (NamePattern1) **]
   Glycemic Control:  Insulin fixed and sliding scale
   Lines:
   Multi Lumen - [**2121-12-26**] 05:38 PM
   Dialysis Catheter - [**2121-12-26**] 05:39 PM
   Prophylaxis:
   DVT:  pneumoboot to right leg ( no heparin as HIT)
   Stress ulcer:  on PPI
   VAP:  precations, not intubated
   Comments:
   Communication:  daughter, [**Name (NI) 3769**] [**Name (NI) 6709**]. Patient discussed on
   interdisciplinary rounds
   Code status: DNR/DNI
   Disposition: ICU

2121-12-27 09:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - LIJ HD cath placed per IR
   - Right TLC placed per IR
   - L femoral HD line pulled
   - CT
   - CVVHD re-initiated
   - GNR speciated as acinetobacter
   Allergies:
   Penicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2121-12-25**] 04:12 AM
   Ciprofloxacin - [**2121-12-25**] 01:51 PM
   Colistin - [**2121-12-25**] 10:00 PM
   Metronidazole - [**2121-12-26**] 05:34 AM
   Ampicillin/Sulbactam (Unasyn) - [**2121-12-26**] 07:24 PM
   Daptomycin - [**2121-12-26**] 07:24 PM
   Ampicillin - [**2121-12-27**] 08:30 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.16 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2121-12-27**] 01:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-27**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 79 (64 - 86) bpm
   BP: 114/34(54) {64/25(33) - 121/74(79)} mmHg
   RR: 17 (9 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,664 mL
                                                                  3,047 mL
   PO:
                                                                    360 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,766 mL
                                                                  2,927 mL
   Blood products:
                                                                    538 mL
   Total out:
                                                                    720 mL
                                                                  2,588 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,944 mL
                                                                    459 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Present), (Left DP pulse: Not
   assessed), L BKA
   Respiratory / Chest: (Breath Sounds: Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   128 K/uL
   83 mg/dL
   3.0 mg/dL
   23 mEq/L
   4.3 mEq/L
   24 mg/dL
   97 mEq/L
   130 mEq/L
   25.4 %
   27.1 K/uL
        [image002.jpg]
                            [**2121-12-24**]  06:00 AM
                            [**2121-12-24**]  11:44 AM
                            [**2121-12-24**]  05:06 PM
                            [**2121-12-25**]  12:23 AM
                            [**2121-12-25**]  06:30 AM
                            [**2121-12-25**]  03:05 PM
                            [**2121-12-26**]  12:23 AM
                            [**2121-12-26**]  05:50 PM
                            [**2121-12-27**]  12:00 AM
                            [**2121-12-27**]  02:18 AM
   WBC
   27.7
   25.7
   21.7
   22.3
   19.5
   27.1
   Hct
   30.9
   27.8
   27.5
   25.8
   25.9
   25.4
   Plt
   173
   145
   172
   141
   127
   128
   Cr
   2.9
   2.7
   2.5
   2.3
   2.8
   2.9
   3.1
   3.3
   3.0
   Glucose
   81
   89
   145
   197
   180
   211
   167
   88
   96
   83
   Other labs: PT / PTT / INR:18.3/34.7/1.7, CK / CKMB / Troponin-T:25//,
   ALT / AST:13/25, Alk Phos / T Bili:212/1.1, Differential-Neuts:89.4 %,
   Lymph:4.4 %, Mono:5.8 %, Eos:0.3 %, Lactic Acid:3.0 mmol/L, Albumin:2.0
   g/dL, LDH:247 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   78 year old female with type 2 DM, ESRD on HD, PVD s/p BKA, CAD s/p MI,
   admitted to vascular surgery for right peroneal angiopalsty on [**12-19**]
   now with ongoing hypotension, hypothermia, and need for more aggressive
   volume removal with CVVH.
   >  Hypotension.  The etiology of the hypotension is likely sepsis (as
   below).  Borderline cortisol may have suggest AI, but [**Last Name (un) 45**] stim was
   normal. TFTs with normal TSH and low T4, but unlikely to be playing a
   role in hypotension. Finally , her chronic anemia is compounding her
   picture and would favor a more aggressive transfusion goal of Hct >25.
   -          Persistent pressor requirements
   -          Transfuse for Hct > 25
   -          Will need temporary groin line for additional access given
   pressors/abx
   > Sepsis. Patient with MDR acinetobacter sensitive only to unasyn in
   blood (sensitivities to colistin added).  Numerous possible infectious
   sources include her sacral decub and groin line. Per ID, currently
   covered with Unasyn for gram neg coverage and Daptomycin for gram
   postive given hx of VRE. Also could have concurrent intraabdominal
   process, so will continue flagyl until final read on CT back. Of note,
   plastic surgery came by to see about decub ulcer, but only recommended
   topical treatment, nothing invasive given she is on plavix. Plavix
   d/c
ed [**12-23**]. Given that patient initially improved on Meropenem
   (decreased WBC count and briefly off pressors), and now has been
   getting progressively worse since changed to unasyn (increased pressor
   requirements, less responsive, increased WBC count), will add back
   meropenem.  RUE u/s negative x 3. Abd CT pending.
   -          Add back Meropenem to dapto/flagyl/unasyn (CVVHD dosing)
   -          Follow-up cultures
   -          C.diff x 3 negative
   -          Levophed to maintain MAPs> 55 while on CVVH
   -          Plastic surgery on board to help with management of decub
   ulcer
   -          F/u Abd CT
   > ESRD on dialysis.  Likely secondary to diabetes and HTN.  Patient has
   been getting dialysis 3xweek, but unable to remove volume due to low
   blood pressures.  Now grossly fluid overloaded (?> 30 kg up from dry
   weight) though not requiring supplemental oxygen.  HD line replaced
   [**12-26**] and now back on CVVH (cannot do that through fistula)
   -          Continue CVVHD
   > CAD s/p MI.  Patient noted to have new regional wall motion
   abnormalities consistent with ischemia.  Has had two CABGs in past.
   Troponin mildly elevated in setting of renal failure with flat CK not
   suggestive of an acute event.
   -          aspirin, statin
   -          hold BB due to hypotension
   >Hyponatremia.  Patient appears hypervolemic.
   -          free water restrict
   -          fluid removal with CVVH
   > RUE edema with pain out of proportion to exam.  RUE negative x3.
   Unclear if vascular event happened, but extremity does not appear
   ischemic.
   -          continue dapto
   > Elevated INR.  Elevated INR, though not on anticoagulation.   Likely
   secondary to malnutrition and antibiotic use.
   -          vitamin K IV
   -          follow coags
   -          FFP for procedures
   > Anemia: Hct decreased from 30 to 27.5, now 25.8. Decrease likely
   iatrogenic due to CVVHD filter having to be changed multiple times with
   loss of blood each time and labs. Also, pt with history of AVMs.
   -          Transfuse to keep Hct > 25
   -          Epogen
   > HIT positive: Not on SQ heparin.
   > Abdominal mass: Unclear etiology,
   -          F/u final CT read
   Other issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-12-26**] 05:38 PM
   Dialysis Catheter - [**2121-12-26**] 05:39 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill
   ------ Protected Section ------
   ICU Attending
   Patient interviewed and examined with Dr. [**Last Name (STitle) 6757**], ICU fellow. Details
   of evaluation outlined in her note above.
   Patient is more awake this afternoon. Still complaining of pain in
   right arm. No dyspnea. Still on levophed for BP support. Getting CVVH.
   On exam, patient is comfortable lying at 30 degrees. [**Last Name (un) 77**]. No icterus.
   Oral mucosa dry. Chest clear with good air movement bilaterally
   anterior and lateral.  No wheeze or rhonchus. Heart sounds normal. +
   S4. No murmur. Abdomen with normal bowel sounds. No tenderness or
   guarding. Left AKA. Right leg warm with 2+ edema.
   IMPRESSION
   Hypotension
   Bacteremia
   Chronic Renal Failure
   Anemia
   Patient continues to be pressor dependent. Will start Vasopressin and
   attempt to wean off levophed.  WBC 27,000. Antibiotics being adjusted
   for better coverage of acinetobacter. Dapto continues for possible
   staph skin infection. Sacral decubitus may need debridement.
   Patient continues on CVVH. Electrolytes acceptable.
   Hct down. Transfusion today. No evidence of GI bleeding.
   Critical Care 30  mins.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 25**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 25**], MD
   on:[**2121-12-27**] 15:54 ------

2121-12-28 11:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Started vasopressin, off levophed
   Allergies:
   Penicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2121-12-25**] 01:51 PM
   Ampicillin/Sulbactam (Unasyn) - [**2121-12-26**] 07:24 PM
   Daptomycin - [**2121-12-26**] 07:24 PM
   Meropenem - [**2121-12-28**] 01:00 AM
   Ampicillin - [**2121-12-28**] 08:00 AM
   Colistin - [**2121-12-28**] 08:00 AM
   Metronidazole - [**2121-12-28**] 08:00 AM
   Infusions:
   Vasopressin - 1.2 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.03 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Morphine Sulfate - [**2121-12-28**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-28**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.1
   HR: 72 (72 - 84) bpm
   BP: 105/56(69) {89/35(54) - 141/68(96)} mmHg
   RR: 20 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  7,019 mL
                                                                  3,693 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  6,899 mL
                                                                  3,573 mL
   Blood products:
   Total out:
                                                                 10,125 mL
                                                                  5,710 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,106 mL
                                                                 -2,017 mL
   Respiratory support
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Present), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right: 1+, Left BKA
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   109 K/uL
   172 mg/dL
   2.3 mg/dL
   24 mEq/L
   4.3 mEq/L
   16 mg/dL
   97 mEq/L
   133 mEq/L
   25.3 %
   21.3 K/uL
        [image002.jpg]
                            [**2121-12-25**]  06:30 AM
                            [**2121-12-25**]  03:05 PM
                            [**2121-12-26**]  12:23 AM
                            [**2121-12-26**]  05:50 PM
                            [**2121-12-27**]  12:00 AM
                            [**2121-12-27**]  02:18 AM
                            [**2121-12-27**]  11:09 AM
                            [**2121-12-27**]  06:23 PM
                            [**2121-12-28**]  12:30 AM
                            [**2121-12-28**]  05:45 AM
   WBC
   21.7
   22.3
   19.5
   27.1
   26.7
   21.3
   Hct
   27.5
   25.8
   25.9
   25.4
   28.1
   25.3
   Plt
   172
   141
   127
   128
   140
   109
   Cr
   2.8
   2.9
   3.1
   3.3
   3.0
   2.7
   2.5
   2.3
   Glucose
   180
   211
   167
   88
   96
   83
   79
   144
   179
   172
   Other labs: PT / PTT / INR:19.6/36.0/1.8, CK / CKMB / Troponin-T:25//,
   ALT / AST:13/25, Alk Phos / T Bili:212/1.1, Differential-Neuts:89.1 %,
   Lymph:4.4 %, Mono:5.8 %, Eos:0.5 %, Lactic Acid:3.3 mmol/L, Albumin:2.0
   g/dL, LDH:247 IU/L, Ca++:10.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   78 year old female with type 2 DM, ESRD on HD, PVD s/p BKA, CAD s/p MI,
   admitted to vascular surgery for right peroneal angiopalsty on [**12-19**]
   now with acinetobacter sepsis causing ongoing hypotension and
   hypothermia.  On CVVHD for more aggressive volume removal.  Satting
   100% on RA.
   >  Hypotension.  The etiology of the hypotension is likely sepsis (as
   below).  Borderline cortisol may have suggest AI, but [**Last Name (un) 45**] stim was
   normal. TFTs with normal TSH and low T4, but unlikely to be playing a
   role in hypotension. Finally, her chronic anemia is compounding her
   picture and would favor a more aggressive transfusion goal of Hct >25.
   -          Persistent pressor requirements
   -          Transfuse for Hct > 25
   -          Will need temporary groin line for additional access given
   pressors/abx
   > Sepsis. Patient with MDR acinetobacter sensitive only to unasyn in
   blood (sensitivities to colistin added).  Numerous possible infectious
   sources include her sacral decub and groin line. Per ID, currently
   covered with Unasyn and colistin for gram neg coverage (got worse
 inc
   pressor requirement ,increased WBC count
 on unasyn alone) and
   Daptomycin for gram postive given hx of VRE. Also could have concurrent
   intraabdominal process, so will continue flagyl until final read on CT
   back. Of note, plastic surgery came by to see about decub ulcer, but
   only recommended topical treatment, nothing invasive given she is on
   plavix. Plavix d/c
ed [**12-23**]. RUE u/s negative x 3. Abd CT final read
   pending.
   -          On dapto/flagyl/unasyn/colistin (CVVHD dosing)
   -          Follow-up cultures
   -          C.diff x 3 negative
   -          Vasopressin to maintain MAPs> 55 while on CVVH
   -          Will reconsult plastic surgery regarding debridement of
   decub ulcer (ID very keen on them intervening)
   -          F/u Abd CT final read
   > ESRD on dialysis.  Likely secondary to diabetes and HTN.  Patient has
   been getting dialysis 3xweek, but unable to remove volume due to low
   blood pressures.  Now grossly fluid overloaded (?> 30 kg up from dry
   weight) though not requiring supplemental oxygen.  HD line replaced
   [**12-26**] and now back on CVVH (cannot do that through fistula)
   -          Continue CVVHD
   > CAD s/p MI.  Patient noted to have new regional wall motion
   abnormalities consistent with ischemia.  Has had two CABGs in past.
   Troponin mildly elevated in setting of renal failure with flat CK not
   suggestive of an acute event.
   -          aspirin, statin
   -          hold BB due to hypotension
   >Hyponatremia.  Patient appears hypervolemic.
   -          free water restrict
   -          fluid removal with CVVH
   > RUE edema with pain out of proportion to exam.  RUE negative x3.
   Unclear if vascular event happened, but extremity does not appear
   ischemic.  Concern for compartment syndrome. Lactate slightly increased
   from 3.0 to 3.3.
   -          continue dapto
   -          hand consult
   > Elevated INR.  Elevated INR, though not on anticoagulation.   Likely
   secondary to malnutrition and antibiotic use.
   -          vitamin K IV
   -          follow coags
   -          FFP for procedures
   > Anemia: Hct decreased from 30 to 27.5, now 25.8. Decrease likely
   iatrogenic due to CVVHD filter having to be changed multiple times with
   loss of blood each time and labs. Also, pt with history of AVMs.  Will
   give 1 unit today.
   -          Transfuse to keep Hct > 25
   -          Epogen
   > HIT positive: Not on SQ heparin.
   > Abdominal mass: Unclear etiology,
   -          F/u final CT read
   Other issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-12-26**] 05:38 PM
   Dialysis Catheter - [**2121-12-26**] 05:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI per health care proxy and entire family
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2121-12-28 12:33:00 Physician Resident Progress Note
Chief Complaint: septic shock
   24 Hour Events:
   - started Colistin in addition to Unasyn for coverage of MDR
   Acinetobacter
   - started vasopressin in attempt to wean norepinephrine
   - cont CVVH
   Allergies:
   Penicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2121-12-25**] 01:51 PM
   Ampicillin/Sulbactam (Unasyn) - [**2121-12-26**] 07:24 PM
   Daptomycin - [**2121-12-26**] 07:24 PM
   Meropenem - [**2121-12-28**] 01:00 AM
   Colistin - [**2121-12-28**] 08:00 AM
   Metronidazole - [**2121-12-28**] 08:00 AM
   Ampicillin - [**2121-12-28**] 12:00 PM
   Infusions:
   Vasopressin - 1.2 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.03 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Morphine Sulfate - [**2121-12-28**] 11:00 AM
   Other medications:
   Changes to medical and family history:  none
   Review of systems is unchanged from admission
   Flowsheet Data as of  [**2121-12-28**] 12:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (96.9
   HR: 72 (72 - 84) bpm
   BP: 105/56(69) {89/35(54) - 141/68(96)} mmHg
   RR: 20 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  7,019 mL
                                                                  4,044 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  6,899 mL
                                                                  3,924 mL
   Blood products:
   Total out:
                                                                 10,125 mL
                                                                  5,710 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,106 mL
                                                                 -1,666 mL
   Respiratory support
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General:  moderately uncomfortable; lying in bed
   Chest:  clear to auscultation throughout
   CV: irregular, no murmurs
   Abd: soft, palpable subcutaneous mass; nl BS
   Extr: s/p left BKA; right leg in weight-sparing boot
   Labs / Radiology
   109 K/uL
   8.3 g/dL
   172 mg/dL
   2.3 mg/dL
   24 mEq/L
   4.3 mEq/L
   16 mg/dL
   97 mEq/L
   133 mEq/L
   25.3 %
   21.3 K/uL
        [image002.jpg]
                            [**2121-12-25**]  06:30 AM
                            [**2121-12-25**]  03:05 PM
                            [**2121-12-26**]  12:23 AM
                            [**2121-12-26**]  05:50 PM
                            [**2121-12-27**]  12:00 AM
                            [**2121-12-27**]  02:18 AM
                            [**2121-12-27**]  11:09 AM
                            [**2121-12-27**]  06:23 PM
                            [**2121-12-28**]  12:30 AM
                            [**2121-12-28**]  05:45 AM
   WBC
   21.7
   22.3
   19.5
   27.1
   26.7
   21.3
   Hct
   27.5
   25.8
   25.9
   25.4
   28.1
   25.3
   Plt
   172
   141
   127
   128
   140
   109
   Cr
   2.8
   2.9
   3.1
   3.3
   3.0
   2.7
   2.5
   2.3
   Glucose
   180
   211
   167
   88
   96
   83
   79
   144
   179
   172
   Other labs: PT / PTT / INR:19.6/36.0/1.8, CK / CKMB / Troponin-T:25//,
   ALT / AST:13/25, Alk Phos / T Bili:212/1.1, Differential-Neuts:89.1 %,
   Lymph:4.4 %, Mono:5.8 %, Eos:0.5 %, Lactic Acid:3.2 mmol/L, Albumin:2.0
   g/dL, LDH:247 IU/L, Ca++:10.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 5228**] is a 78 year old female with type 2 DM, ESRD on HD, PVD s/p
   BKA, CAD s/p MI with septic shock.
   1.       Septic Shock: from MDR Acinetobacter line infection; decubitus
   ulcers may very well be contributing; unclear if there is also tissue
   ischemia from PVD (? In her left arm/hand)
   -          ID input appreciated
   -          On Colistin/high-dose Unasyn for Acinetobacter bacteremia;
   surveillance blood cultures negative
   -          On empiric daptomycin to cover skin/soft tissue infections
   -          On empiric metronidazole to cover abdominal pathogens as
   well; C Diff negative x2
   -          Will discuss with plastics role of debridement of decubitus
   ulcers; f/u final read of CT
   -          Will consult hand surgery to evaluate right hand/arm for
   compartment syndrome
   2.       CKD V on hemodialysis
   -          cont CVVH per renal team
   3.       Sacral/ischial decubitus ulcers
   - discuss role of debridement with plastics as above
   4.       Anemia; history of chronic GI bleed from AVMs
   -          transfuse 1 unit pRBCs today, esp given elevated lactate
   5.       Heel ulcer/PVD
   -          cont weight-sparing boot; no urgent vascular intervention
   6.       History of HIT
   -          avoid heparin
   7.       DM2
   -          cont home insulin
   ICU Care
   Nutrition: diabetic diet with frappes
   Glycemic Control:  insulin
   Lines:
   Multi Lumen - [**2121-12-26**] 05:38 PM
   Dialysis Catheter - [**2121-12-26**] 05:39 PM
   Prophylaxis:
   DVT: pneumoboots (hx HIT)
   Stress ulcer: ppi
   Communication:  with patient and daughters
   [**Name (NI) 66**] status: DNR/DNI
   Disposition:  ICU

2121-12-28 15:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Started vasopressin, off levophed
   Allergies:
   Penicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2121-12-25**] 01:51 PM
   Ampicillin/Sulbactam (Unasyn) - [**2121-12-26**] 07:24 PM
   Daptomycin - [**2121-12-26**] 07:24 PM
   Meropenem - [**2121-12-28**] 01:00 AM
   Ampicillin - [**2121-12-28**] 08:00 AM
   Colistin - [**2121-12-28**] 08:00 AM
   Metronidazole - [**2121-12-28**] 08:00 AM
   Infusions:
   Vasopressin - 1.2 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.03 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Morphine Sulfate - [**2121-12-28**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-28**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.1
   HR: 72 (72 - 84) bpm
   BP: 105/56(69) {89/35(54) - 141/68(96)} mmHg
   RR: 20 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  7,019 mL
                                                                  3,693 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  6,899 mL
                                                                  3,573 mL
   Blood products:
   Total out:
                                                                 10,125 mL
                                                                  5,710 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,106 mL
                                                                 -2,017 mL
   Respiratory support
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Present), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right: 1+, Left BKA
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   109 K/uL
   172 mg/dL
   2.3 mg/dL
   24 mEq/L
   4.3 mEq/L
   16 mg/dL
   97 mEq/L
   133 mEq/L
   25.3 %
   21.3 K/uL
        [image002.jpg]
                            [**2121-12-25**]  06:30 AM
                            [**2121-12-25**]  03:05 PM
                            [**2121-12-26**]  12:23 AM
                            [**2121-12-26**]  05:50 PM
                            [**2121-12-27**]  12:00 AM
                            [**2121-12-27**]  02:18 AM
                            [**2121-12-27**]  11:09 AM
                            [**2121-12-27**]  06:23 PM
                            [**2121-12-28**]  12:30 AM
                            [**2121-12-28**]  05:45 AM
   WBC
   21.7
   22.3
   19.5
   27.1
   26.7
   21.3
   Hct
   27.5
   25.8
   25.9
   25.4
   28.1
   25.3
   Plt
   172
   141
   127
   128
   140
   109
   Cr
   2.8
   2.9
   3.1
   3.3
   3.0
   2.7
   2.5
   2.3
   Glucose
   180
   211
   167
   88
   96
   83
   79
   144
   179
   172
   Other labs: PT / PTT / INR:19.6/36.0/1.8, CK / CKMB / Troponin-T:25//,
   ALT / AST:13/25, Alk Phos / T Bili:212/1.1, Differential-Neuts:89.1 %,
   Lymph:4.4 %, Mono:5.8 %, Eos:0.5 %, Lactic Acid:3.3 mmol/L, Albumin:2.0
   g/dL, LDH:247 IU/L, Ca++:10.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   78 year old female with type 2 DM, ESRD on HD, PVD s/p BKA, CAD s/p MI,
   admitted to vascular surgery for right peroneal angiopalsty on [**12-19**]
   now with acinetobacter sepsis causing ongoing hypotension and
   hypothermia.  On CVVHD for more aggressive volume removal.  Satting
   100% on RA.
   >  Hypotension.  The etiology of the hypotension is likely sepsis (as
   below).  Borderline cortisol may have suggest AI, but [**Last Name (un) 45**] stim was
   normal. TFTs with normal TSH and low T4, but unlikely to be playing a
   role in hypotension. Finally, her chronic anemia is compounding her
   picture and would favor a more aggressive transfusion goal of Hct >25.
   -          Persistent pressor requirements
   -          Transfuse for Hct > 25
   -          Will need temporary groin line for additional access given
   pressors/abx
   > Sepsis. Patient with MDR acinetobacter sensitive only to unasyn in
   blood (sensitivities to colistin added).  Numerous possible infectious
   sources include her sacral decub and groin line. Per ID, currently
   covered with Unasyn and colistin for gram neg coverage (got worse
 inc
   pressor requirement ,increased WBC count
 on unasyn alone) and
   Daptomycin for gram postive given hx of VRE. Also could have concurrent
   intraabdominal process, so will continue flagyl until final read on CT
   back. Of note, plastic surgery came by to see about decub ulcer, but
   only recommended topical treatment, nothing invasive given she is on
   plavix. Plavix d/c
ed [**12-23**]. RUE u/s negative x 3. Abd CT final read
   pending.
   -          On dapto/flagyl/unasyn/colistin (CVVHD dosing)
   -          Follow-up cultures
   -          C.diff x 3 negative
   -          Vasopressin to maintain MAPs> 55 while on CVVH
   -          Will reconsult plastic surgery regarding debridement of
   decub ulcer (ID very keen on them intervening)
   -          F/u Abd CT final read
   > ESRD on dialysis.  Likely secondary to diabetes and HTN.  Patient has
   been getting dialysis 3xweek, but unable to remove volume due to low
   blood pressures.  Now grossly fluid overloaded (?> 30 kg up from dry
   weight) though not requiring supplemental oxygen.  HD line replaced
   [**12-26**] and now back on CVVH (cannot do that through fistula)
   -          Continue CVVHD
   > CAD s/p MI.  Patient noted to have new regional wall motion
   abnormalities consistent with ischemia.  Has had two CABGs in past.
   Troponin mildly elevated in setting of renal failure with flat CK not
   suggestive of an acute event.
   -          aspirin, statin
   -          hold BB due to hypotension
   >Hyponatremia.  Patient appears hypervolemic.
   -          free water restrict
   -          fluid removal with CVVH
   > RUE edema with pain out of proportion to exam.  RUE negative x3.
   Unclear if vascular event happened, but extremity does not appear
   ischemic.  Concern for compartment syndrome. Lactate slightly increased
   from 3.0 to 3.3.
   -          continue dapto
   -          hand consult
   > Elevated INR.  Elevated INR, though not on anticoagulation.   Likely
   secondary to malnutrition and antibiotic use.
   -          vitamin K IV
   -          follow coags
   -          FFP for procedures
   > Anemia: Hct decreased from 30 to 27.5, now 25.8. Decrease likely
   iatrogenic due to CVVHD filter having to be changed multiple times with
   loss of blood each time and labs. Also, pt with history of AVMs.  Will
   give 1 unit today.
   -          Transfuse to keep Hct > 25
   -          Epogen
   > HIT positive: Not on SQ heparin.
   > Abdominal mass: Unclear etiology,
   -          F/u final CT read
   Other issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-12-26**] 05:38 PM
   Dialysis Catheter - [**2121-12-26**] 05:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI per health care proxy and entire family
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   I was physically present with the fellow and housestaff team for the
   key portions of the service provided.  I would add the following
   remarks
   -Patient with Vasopressin added and able to wean levophed to off
   -Have Unasyn/Dapto/Colistin/Flagyl in place for coverage of
   Acinetobacter and likely skin flora and other pathogens from previous
   catheterizations
   -Patient does have swollen peripheral extremity
   Exam-
   Patient afebrile at this time
   Abdominal CT-Final read pending
prelim read suggesting inflammation to
   region of rectum, bibasilar atelectasis
   Plan-
   Sepsis-Patient with reasonable response to vasopressin consistent with
   sepsis as source of hypotension.  She has not had fever in the setting
   of CVVH and concern is for skin source in the setting decubitus ulcer
   and upper extremity concerning for ischemia and will continue
   evaluation and treatment as below.
   -
   Renal Failure-_CVVH via dialysis [**Last Name (un) **]
   ------ Protected Section Addendum Entered By:[**Name (NI) 983**] [**Last Name (NamePattern1) 984**], MD
   on:[**2121-12-28**] 15:21 ------
   ------ Added by auto log oyt ------
   Additional issues to be addressed as defined in the note above
   NOTE:Have discussed  in detail with ID team attending role of
   antibiotic choices and need to define primary source for persistent
   compromise.  Will review CT scan to define possible source as relates
   to sacral region and continue with plastic surgery evaluation for that
   region and question of UE compartment syndrome
   Critical Care Time-35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 983**] [**Last Name (NamePattern1) 984**], MD
   on:[**2121-12-28**] 15:45 ------

2121-12-29 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - hand/plastics feel decub ulcers unlikely to be causing septic shock
   - for hand pain,plastics think it could be arterial steal and
   recommended arterial Dopplers with and without compression of AV
   fistula; awaiting this study
   - levophed weaned off with vasopressin at 2.4 units/hr; MAPs in low 50s
   overnight, so CVVH slowed to take off only 100-150cc/hr (down from
   200cc/hr)
   - platelets trending down
   Allergies:
   Penicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2121-12-26**] 07:24 PM
   Meropenem - [**2121-12-28**] 01:00 AM
   Colistin - [**2121-12-28**] 08:00 AM
   Metronidazole - [**2121-12-28**] 08:00 AM
   Daptomycin - [**2121-12-28**] 09:06 PM
   Ampicillin - [**2121-12-29**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Morphine Sulfate - [**2121-12-28**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-29**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96.1
   HR: 71 (71 - 83) bpm
   BP: 102/52(65) {91/35(47) - 119/68(73)} mmHg
   RR: 16 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  7,482 mL
                                                                  2,062 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  6,987 mL
                                                                  2,062 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                 12,634 mL
                                                                  2,321 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,152 mL
                                                                   -259 mL
   Respiratory support
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Skin:  warm; no petichiae in limited exam
   Neurologic: Responds to questions (asked
Como [**Female First Name (un) **] Ud.?
 She says
bien
), commands;
   Lungs: moving air well on anterior exam
   Cardiac: quiet, regular rate and rhythm
   Abd: non-tender
   Ext: 2+ edema
   Labs / Radiology
   73 K/uL
   9.2 g/dL
   172 mg/dL
   2.0 mg/dL
   25 mEq/L
   4.7 mEq/L
   12 mg/dL
   97 mEq/L
   135 mEq/L
   26.5 %
   24.2 K/uL
        [image002.jpg]
                            [**2121-12-27**]  12:00 AM
                            [**2121-12-27**]  02:18 AM
                            [**2121-12-27**]  11:09 AM
                            [**2121-12-27**]  06:23 PM
                            [**2121-12-28**]  12:30 AM
                            [**2121-12-28**]  05:45 AM
                            [**2121-12-28**]  11:30 AM
                            [**2121-12-28**]  05:07 PM
                             [**2121-12-29**]  12:00 AM
                             [**2121-12-29**]  05:44 AM
   WBC
   27.1
   26.7
   21.3
   20.1
   24.2
   Hct
   25.4
   28.1
   25.3
   28.5
   26.5
   Plt
   128
   140
   109
   81
   73
   Cr
   3.0
   2.7
   2.5
   2.3
   2.2
   2.1
   2.0
   Glucose
   96
   83
   79
   144
   179
   172
   134
   137
   161
   172
   Other labs: PT / PTT / INR:20.0/37.5/1.9, CK / CKMB / Troponin-T:25//,
   ALT / AST:13/25, Alk Phos / T Bili:212/1.1, Differential-Neuts:89.1 %,
   Lymph:4.4 %, Mono:5.8 %, Eos:0.5 %, Lactic Acid:3.2 mmol/L, Albumin:2.0
   g/dL, LDH:247 IU/L, Ca++:11.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 ANEMIA, CHRONIC
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 DIABETES MELLITUS (DM), TYPE II
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 IMPAIRED SKIN INTEGRITY
 NEUROPATHY, PERIPHERAL
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PEPTIC ULCER DISEASE (PUD)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 THROMBOCYTOPENIA, CHRONIC
 HYPOTENSION (NOT SHOCK)
   Ms. [**Known lastname 5228**] is a 78 year old female with type 2 DM, ESRD on HD, PVD s/p
   BKA, CAD s/p MI with septic shock.
   1.       Septic Shock: from MDR Acinetobacter line infection; decubitus
   ulcers may very well be contributing; unclear if there is also tissue
   ischemia from PVD (? In her left arm/hand)
   -          ID input appreciated
   -          Remaining on Colistin/high-dose Unasyn for Acinetobacter
   bacteremia; surveillance blood cultures negative
   -          Remaining empiric daptomycin to cover skin/soft tissue
   infections
   -          On empiric metronidazole to cover abdominal pathogens as
   well; C Diff negative x2, however, still having diarrhea so keeping
   this on for now
   -          Will discuss with plastics role of debridement of decubitus
   ulcers; f/u final read of CT
   -          Will consult hand surgery to evaluate right hand/arm for
   compartment syndrome
   2.       CKD V on hemodialysis
   -          cont CVVH per renal team; per renal attending, systolics of
   80s are typical for her and we should tolerate this; they feel that she
   still have considerable fluid to take off and that the failure to do so
   will significantly limit her future prospects; therefore we are
   continuing to the extent possible, targeting systolics of 80s and
   making sure that basic mentation, organ function, etc remains intact.
   3.       Sacral/ischial decubitus ulcers
   Plastics feels that there is not currently a role for debridement; we
   should follow these closely and ask them to reassess if she continues
   to have any element of sepsis-like picture
   4.       Anemia; history of chronic GI bleed from AVMs
   -         Got 1 U PRBCs
   5.       Heel ulcer/PVD
   -          cont weight-sparing boot; no urgent vascular intervention
   6.       History of HIT
   -          avoid heparin
   7.       DM2
   -          cont insulin
   ICU Care
   Nutrition: PO consistent carb as tolerated
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-12-26**] 05:38 PM
   Dialysis Catheter - [**2121-12-26**] 05:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR./DNI
   Disposition: Remaining in unit for now

2121-12-29 09:43:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Seen by plastics - awaiting arterial dopplers w/w compression of
   fistula
   Weaned of Levophed
   CVVH - down to 100-150 negativr
   Plts trending down
   Allergies:
   Penicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2121-12-26**] 07:24 PM
   Meropenem - [**2121-12-28**] 01:00 AM
   Colistin - [**2121-12-28**] 08:00 AM
   Metronidazole - [**2121-12-28**] 08:00 AM
   Daptomycin - [**2121-12-28**] 09:06 PM
   Ampicillin - [**2121-12-29**] 08:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Morphine Sulfate - [**2121-12-28**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: hypotension
   Heme / Lymph: thrombocytopenia
   Flowsheet Data as of  [**2121-12-29**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96.1
   HR: 71 (71 - 83) bpm
   BP: 104/45(61) {91/35(47) - 119/62(71)} mmHg
   RR: 19 (12 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  7,482 mL
                                                                  2,498 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  6,987 mL
                                                                  2,498 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                 12,634 mL
                                                                  3,357 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,152 mL
                                                                   -859 mL
   Respiratory support
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   73 K/uL
   172 mg/dL
   2.0 mg/dL
   25 mEq/L
   4.7 mEq/L
   12 mg/dL
   97 mEq/L
   135 mEq/L
   26.5 %
   24.2 K/uL
        [image002.jpg]
                            [**2121-12-27**]  12:00 AM
                            [**2121-12-27**]  02:18 AM
                            [**2121-12-27**]  11:09 AM
                            [**2121-12-27**]  06:23 PM
                            [**2121-12-28**]  12:30 AM
                            [**2121-12-28**]  05:45 AM
                            [**2121-12-28**]  11:30 AM
                            [**2121-12-28**]  05:07 PM
                             [**2121-12-29**]  12:00 AM
                             [**2121-12-29**]  05:44 AM
   WBC
   27.1
   26.7
   21.3
   20.1
   24.2
   Hct
   25.4
   28.1
   25.3
   28.5
   26.5
   Plt
   128
   140
   109
   81
   73
   Cr
   3.0
   2.7
   2.5
   2.3
   2.2
   2.1
   2.0
   Glucose
   96
   83
   79
   144
   179
   172
   134
   137
   161
   172
   Other labs: PT / PTT / INR:20.0/37.5/1.9, CK / CKMB / Troponin-T:25//,
   ALT / AST:13/25, Alk Phos / T Bili:212/1.1, Differential-Neuts:89.1 %,
   Lymph:4.4 %, Mono:5.8 %, Eos:0.5 %, Lactic Acid:3.2 mmol/L, Albumin:2.0
   g/dL, LDH:247 IU/L, Ca++:11.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 ANEMIA, CHRONIC
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 DIABETES MELLITUS (DM), TYPE II
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 IMPAIRED SKIN INTEGRITY
 NEUROPATHY, PERIPHERAL
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PEPTIC ULCER DISEASE (PUD)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 THROMBOCYTOPENIA, CHRONIC
 HYPOTENSION (NOT SHOCK) - Infection + Volume removal with CVVH. Aim
   less negatvie today.
   CVVH EVEN pending weaning of pressors.
   Infection -
   Acin etobacter bacteremia - Colistin, Uansyn
   Sacrol Decub - followed by plastics - Dapto, Colistin, Unasyn
   Code
   DNR/DNI
   ICU Care
   Nutrition:
   Comments: Tolerating PO's
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2121-12-26**] 05:38 PM
   Dialysis Catheter - [**2121-12-26**] 05:39 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2121-12-30 07:52:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Some hypotension o/n
   Allergies:
   Penicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2121-12-28**] 01:00 AM
   Colistin - [**2121-12-28**] 08:00 AM
   Metronidazole - [**2121-12-28**] 08:00 AM
   Daptomycin - [**2121-12-29**] 07:45 PM
   Ampicillin - [**2121-12-30**] 04:09 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-30**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 75 (66 - 93) bpm
   BP: 86/45(54) {71/29(43) - 110/46(61)} mmHg
   RR: 17 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  6,286 mL
                                                                  2,003 mL
   PO:
                                                                    460 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  5,826 mL
                                                                  1,903 mL
   Blood products:
   Total out:
                                                                  9,022 mL
                                                                  1,746 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,736 mL
                                                                    257 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   75 K/uL
   102 mg/dL
   1.9 mg/dL
   32 mEq/L
   4.2 mEq/L
   9 mg/dL
   96 mEq/L
   136 mEq/L
   24.1 %
   18.3 K/uL
        [image002.jpg]
                            [**2121-12-28**]  12:30 AM
                            [**2121-12-28**]  05:45 AM
                            [**2121-12-28**]  11:30 AM
                            [**2121-12-28**]  05:07 PM
                             [**2121-12-29**]  12:00 AM
                             [**2121-12-29**]  05:44 AM
                             [**2121-12-29**]  11:18 AM
                             [**2121-12-29**]  05:09 PM
                             [**2121-12-29**]  11:17 PM
                             [**2121-12-30**]  04:57 AM
   WBC
   21.3
   20.1
   24.2
   17.0
   18.3
   Hct
   25.3
   28.5
   26.5
   24.5
   24.1
   Plt
   109
   81
   73
   71
   75
   Cr
   2.3
   2.2
   2.1
   2.0
   1.9
   1.9
   1.9
   Glucose
   179
   172
   134
   137
   161
   172
   166
   162
   130
   102
   Other labs: PT / PTT / INR:20.3/37.1/1.9, CK / CKMB / Troponin-T:25//,
   ALT / AST:13/25, Alk Phos / T Bili:212/1.1, Differential-Neuts:89.1 %,
   Lymph:4.4 %, Mono:5.8 %, Eos:0.5 %, Lactic Acid:2.1 mmol/L, Albumin:2.0
   g/dL, LDH:247 IU/L, Ca++:10.9 mg/dL, Mg++:1.6 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   78 year old female with type 2 DM, ESRD on HD, PVD s/p BKA, CAD s/p MI,
   admitted to vascular surgery for right peroneal angiopalsty on [**12-19**]
   now with acinetobacter sepsis causing ongoing hypotension and
   hypothermia.  On CVVHD for more aggressive volume removal.  Satting
   100% on RA.
   >  Hypotension.  The etiology of the hypotension is likely sepsis (as
   below).  Borderline cortisol may have suggest AI, but [**Last Name (un) 45**] stim was
   normal. TFTs with normal TSH and low T4, but unlikely to be playing a
   role in hypotension. Finally, her chronic anemia is compounding her
   picture and would favor a more aggressive transfusion goal of Hct >25.
   -          Persistent pressor requirements
   -          Transfuse for Hct > 25
   -          Will need temporary groin line for additional access given
   pressors/abx
   > Sepsis. Patient with MDR acinetobacter sensitive only to unasyn in
   blood (sensitivities to colistin added).  Numerous possible infectious
   sources include her sacral decub and groin line. Per ID, currently
   covered with Unasyn and colistin for gram neg coverage (got worse
 inc
   pressor requirement ,increased WBC count
 on unasyn alone) and
   Daptomycin for gram postive given hx of VRE. Also could have concurrent
   intraabdominal process, so will continue flagyl until final read on CT
   back. Of note, plastic surgery came by to see about decub ulcer, but
   only recommended topical treatment, nothing invasive given she is on
   plavix. Plavix d/c
ed [**12-23**]. RUE u/s negative x 3. Abd CT final read
   pending.
   -          On dapto/flagyl/unasyn/colistin (CVVHD dosing)
   -          Follow-up cultures
   -          C.diff x 3 negative
   -          Vasopressin to maintain MAPs> 55 while on CVVH
   -          Will reconsult plastic surgery regarding debridement of
   decub ulcer (ID very keen on them intervening)
   -          F/u Abd CT final read
   > ESRD on dialysis.  Likely secondary to diabetes and HTN.  Patient has
   been getting dialysis 3xweek, but unable to remove volume due to low
   blood pressures.  Now grossly fluid overloaded (?> 30 kg up from dry
   weight) though not requiring supplemental oxygen.  HD line replaced
   [**12-26**] and now back on CVVH (cannot do that through fistula)
   -          Continue CVVHD
   > CAD s/p MI.  Patient noted to have new regional wall motion
   abnormalities consistent with ischemia.  Has had two CABGs in past.
   Troponin mildly elevated in setting of renal failure with flat CK not
   suggestive of an acute event.
   -          aspirin, statin
   -          hold BB due to hypotension
   >Hyponatremia.  Patient appears hypervolemic.
   -          free water restrict
   -          fluid removal with CVVH
   > RUE edema with pain out of proportion to exam.  RUE negative x3.
   Unclear if vascular event happened, but extremity does not appear
   ischemic.  Concern for compartment syndrome. Lactate slightly increased
   from 3.0 to 3.3.
   -          continue dapto
   -          hand consult
   > Elevated INR.  Elevated INR, though not on anticoagulation.   Likely
   secondary to malnutrition and antibiotic use.
   -          vitamin K IV
   -          follow coags
   -          FFP for procedures
   > Anemia: Hct decreased from 30 to 27.5, now 25.8. Decrease likely
   iatrogenic due to CVVHD filter having to be changed multiple times with
   loss of blood each time and labs. Also, pt with history of AVMs.  Will
   give 1 unit today.
   -          Transfuse to keep Hct > 25
   -          Epogen
   > HIT positive: Not on SQ heparin.
   > Abdominal mass: Unclear etiology,
   -          F/u final CT read
   Other issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2121-12-26**] 05:38 PM
   Dialysis Catheter - [**2121-12-26**] 05:39 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2121-12-30 07:59:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
   Continued on current antibiotics
   Hypotensive on vassopressin and CVVHD changed to return fluid to her
   Allergies:
   Penicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2121-12-28**] 01:00 AM
   Colistin - [**2121-12-28**] 08:00 AM
   Metronidazole - [**2121-12-28**] 08:00 AM
   Daptomycin - [**2121-12-29**] 07:45 PM
   Ampicillin - [**2121-12-30**] 04:09 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answerPain location: right arm
   Flowsheet Data as of  [**2121-12-30**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 75 (66 - 93) bpm
   BP: 86/45(54) {71/29(43) - 110/46(61)} mmHg
   RR: 17 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  6,286 mL
                                                                  2,023 mL
   PO:
                                                                    460 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  5,826 mL
                                                                  1,923 mL
   Blood products:
   Total out:
                                                                  9,022 mL
                                                                  2,066 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,736 mL
                                                                    -43 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: mild diffuse tenderness
   Extremities: Right: 2+, Left: 2+, gross anasarca
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   75 K/uL
   8.2 g/dL
   102 mg/dL
   1.9 mg/dL
   32 mEq/L
   4.2 mEq/L
   9 mg/dL
   96 mEq/L
   136 mEq/L
   24.1 %
   18.3 K/uL
        [image002.jpg]
                                     pH
                                    7.44
                                    pCO2
                                     45
                                     pO2
                                     49
                                    HCO3
                                     32
                            [**2121-12-28**]  12:30 AM
                            [**2121-12-28**]  05:45 AM
                            [**2121-12-28**]  11:30 AM
                            [**2121-12-28**]  05:07 PM
                             [**2121-12-29**]  12:00 AM
                             [**2121-12-29**]  05:44 AM
                             [**2121-12-29**]  11:18 AM
                             [**2121-12-29**]  05:09 PM
                             [**2121-12-29**]  11:17 PM
                             [**2121-12-30**]  04:57 AM
   WBC
   21.3
   20.1
   24.2
   17.0
   18.3
   Hct
   25.3
   28.5
   26.5
   24.5
   24.1
   Plt
   109
   81
   73
   71
   75
   Cr
   2.3
   2.2
   2.1
   2.0
   1.9
   1.9
   1.9
   Glucose
   179
   172
   134
   137
   161
   172
   166
   162
   130
   102
   Other labs: PT / PTT / INR:20.3/37.1/1.9, CK / CKMB / Troponin-T:25//,
   ALT / AST:13/25, Alk Phos / T Bili:212/1.1, Differential-Neuts:89.1 %,
   Lymph:4.4 %, Mono:5.8 %, Eos:0.5 %, Lactic Acid:2.1 mmol/L, Albumin:2.0
   g/dL, LDH:247 IU/L, Ca++:10.9 mg/dL, Mg++:1.6 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 5228**] is a 78 year old female with type 2 DM, ESRD on HD, PVD s/p
   BKA, CAD s/p MI with septic shock
   1.       Septic Shock: from MDR Acinetobacter line infection; decubitus
   ulcers may very well be contributing; unclear if there is also tissue
   ischemia from PVD (? In her left arm/hand).
   -          ID input appreciated
   -          Cont vasopressin unti 3pm then attempt to stop, but goal is
   to continue CVVHD
   -          Remaining on Colistin/high-dose Unasyn for Acinetobacter
   bacteremia; surveillance blood cultures negative
   -          Remaining empiric Daptomycin to cover skin/soft tissue
   infections
   -         Metronidazole - C Diff negative x4, CT neg intrabdominal
   access
 STOP today
   -          Plastics role of debridement of decubitus ulcers
 does not
   feel any intervention needed
   -          Hand surgery to evaluate right hand/arm for compartment
   syndrome
 no need for intervention, no compartment
   2.       CKD V on hemodialysis
   -          cont CVVH per renal team; per renal attending, systolics of
   80s are typical for her and we should tolerate this; they feel that she
   still have considerable fluid to take off and that the failure to do so
   will significantly limit her future prospects; therefore we are
   continuing to the extent possible, targeting systolics of 80s and
   making sure that basic mentation, organ function, etc remains intact.
   3.       Sacral/ischial decubitus ulcers
   Plastics feels that there is not currently a role for debridement; we
   should follow these closely and ask them to reassess if she continues
   to have any element of sepsis-like picture
   4.       Anemia; history of chronic GI bleed from AVMs
   -         Continue to transfuse HCT >25 given on CVVHD and will have
   ongoing blood loss
   -         Give one unit of pRBCs
   5.       Heel ulcer/PVD
   -          cont weight-sparing boot; no urgent vascular intervention
   6.       History of HIT
   -          avoid heparin
   7.       DM2
   -          cont insulin
   ICU Care
   Nutrition: PO diabetic diet
   Glycemic Control:  continue insulin fixed/sliding scale
   Lines:
   Multi Lumen - [**2121-12-26**] 05:38 PM
   Dialysis Catheter - [**2121-12-26**] 05:39 PM
   Prophylaxis:
   DVT:  pneumoboots (has HIT)
   Stress ulcer:  on PPI
   VAP:  not intubated
   Communication:  Daughter
   [**Name (NI) 66**] status: DNR/DNI
   Disposition: ICU

2121-12-31 08:01:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
   Stopped flagyl, and daptomycin
   Gave one unit pRBCs given on CVVHD and patient HCT trending downward
   Vassopressin unable to be weaned off, had to decreased CVVHD at 3am to
   neg 200 /hr due to SBPs 70s
   During turning was noted to have clots in her vagina, ordered for
   transvaginal ultrasound to eval as a source of bleeding
   Allergies:
   Penicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2121-12-28**] 08:00 AM
   Colistin - [**2121-12-30**] 10:59 AM
   Daptomycin - [**2121-12-30**] 09:15 PM
   Ampicillin - [**2121-12-31**] 04:31 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Morphine Sulfate - [**2121-12-30**] 03:03 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**6-3**] ModeratePain location: right arm
   Flowsheet Data as of  [**2121-12-31**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 74 (67 - 78) bpm
   BP: 91/35(49) {76/12(35) - 113/75(81)} mmHg
   RR: 14 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  6,479 mL
                                                                  2,078 mL
   PO:
                                                                    340 mL
             TF:
   IVF:
                                                                  5,764 mL
                                                                  2,078 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                 10,244 mL
                                                                  3,454 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,765 mL
                                                                 -1,376 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at bases)
   Abdominal: Soft, Bowel sounds present, Distended, Tender: diffusely
   Extremities: Right: 1+, Left:1+
   Musculoskeletal: Unable to stand
   Skin:  Warm, Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   61 K/uL
   9.2 g/dL
   83 mg/dL
   1.6 mg/dL
   32 mEq/L
   4.3 mEq/L
   9 mg/dL
   98 mEq/L
   140 mEq/L
   26.9 %
   16.3 K/uL
        [image002.jpg]
                             [**2121-12-29**]  05:44 AM
                             [**2121-12-29**]  11:18 AM
                             [**2121-12-29**]  05:09 PM
                             [**2121-12-29**]  11:17 PM
                             [**2121-12-30**]  04:57 AM
                             [**2121-12-30**]  10:03 AM
                             [**2121-12-30**]  03:46 PM
                             [**2121-12-30**]  08:13 PM
                             [**2121-12-30**]  10:14 PM
                             [**2121-12-31**]  04:17 AM
   WBC
   24.2
   17.0
   18.3
   16.1
   16.3
   Hct
   26.5
   24.5
   24.1
   26.5
   26.9
   Plt
   73
   71
   75
   57
   61
   Cr
   2.0
   1.9
   1.9
   1.9
   1.7
   1.8
   1.6
   1.6
   Glucose
   172
   166
   162
   130
   102
   111
   175
   142
   109
   83
   Other labs: PT / PTT / INR:20.4/38.6/1.9, CK / CKMB / Troponin-T:25//,
   ALT / AST:13/25, Alk Phos / T Bili:212/1.1, Differential-Neuts:87.8 %,
   Band:0.0 %, Lymph:4.7 %, Mono:6.6 %, Eos:0.5 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:247 IU/L, Ca++:10.3 mg/dL, Mg++:1.7 mg/dL,
   PO4:1.4 mg/dL
   No new culture data, only blood culture that was positive was for
   acinetobacter  [**12-24**]
   Vascular U/S:  Findings as stated above which indicate poor right
   radial artery flow with improvement with compression. Note of radial
   artery calcification. Calcifications are new when compared to a prior
   AV fistula study performed in [**2116**]
   Assessment and Plan
   Ms. [**Known lastname 5228**] is a 78 year old female with type 2 DM, ESRD on HD, PVD s/p
   BKA, CAD s/p MI with septic shock
   1.       Septic Shock: from MDR Acinetobacter line infection; decubitus
   ulcers may very well be contributing; unclear if there is also tissue
   ischemia from PVD (? In her left arm/hand). Off daptomycin and flagyl
   as c. diff negative and ulcers appear to be not infected.
   -          ID input appreciated
   -          Cont vasopressin unti 3pm then attempt to stop, but goal is
   to continue CVVHD
   -          Remaining on Colistin/high-dose Unasyn for Acinetobacter
   bacteremia; surveillance blood cultures negative
   -          Plastics role of debridement of decubitus ulcers
 does not
   feel any intervention needed
   -          Hand surgery to evaluate right hand/arm for compartment
   syndrome
 no need for intervention, no compartment
   -          Consult colorectal surgery re: rectal inflammation on CT and
   ? possible treatment.
   2. Vaginal Clot: could explain hct drift, per report patient s/p
   TAH/BSO, could be evidence of fistula given inflammation seen on CT
   abd/pelvis.
   -          Transvaginal ultrasound with limited views
   -           Review with radiology if anything on CT abd/pelvis that
   could reveal reason for
   -           Trend HCT
   -           Re-eval if blood becomes issue
   3. Right Arm:  there is some steal from AV fistula. No current change
   in management.
   -            neuropathic pain for symptoms
   -           defer to outpatient further management i.e. neurontin
   4.       CKD V on hemodialysis
   -          cont CVVH per renal team; per renal attending, systolics of
   80s are typical for her and we should tolerate this; they feel that she
   still have considerable fluid to take off and that the failure to do so
   will significantly limit her future prospects; therefore we are
   continuing to the extent possible, targeting systolics of 80s and
   making sure that basic mentation, organ function, etc remains intact.
   5.       Sacral/ischial decubitus ulcers
   Plastics feels that there is not currently a role for debridement; we
   should follow these closely and ask them to reassess if she continues
   to have any element of sepsis-like picture
   --- Ask colorectal surgery to comment given soft tissue changes extend
   to rectum
   6.       Anemia; history of chronic GI bleed from AVMs, also vaginal
   bleed, and CVVHD
   -         Continue to transfuse HCT >25 given on CVVHD and will have
   ongoing blood loss
   -         Give one unit of pRBCs
   7.       Heel ulcer/PVD
   -          cont weight-sparing boot; no urgent vascular intervention
   8.       History of HIT
   -          avoid heparin
   9.       DM2
   -          cont insulin
   10.     Thrombocytopenia: worsening, concerned may have occurred at
   about the time of line placement
   -           confirm with IR re: heparinization of line
   -            if heparin line, then would change over wire with
   non-heparinized due to poor access issues
   ICU Care
   Nutrition: PO diabetic diet
   Glycemic Control:  insulin fixed and sliding
   Lines:
   Multi Lumen - [**2121-12-26**] 05:38 PM
   Dialysis Catheter - [**2121-12-26**] 05:39 PM
   Prophylaxis:
   DVT:  not heparin as HIT ( on pneumoboots)
   Stress ulcer:  on PPI
   VAP:  not intubated
   Comments:
   Communication:  daughter
   [**Name (NI) 66**] status: DNR/DNI
   Disposition: ICU

2121-12-31 08:03:00 Physician Resident Progress Note
Chief Complaint: hypotension, signs of infection, skin breakdown
   24 Hour Events:
   Stopped flagyl, and daptomycin
   Gave one unit pRBCs given on CVVHD and patient HCT trending downward
   Vassopressin unable to be weaned off, had to decreased CVVHD at 3am to
   neg 200 /hr due to SBPs 70s
   During turning was noted to have clots in her vagina, ordered for
   transvaginal ultrasound to eval as a source of bleeding
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsPenicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2121-12-28**] 08:00 AM
   Colistin - [**2121-12-30**] 10:59 AM
   Daptomycin - [**2121-12-30**] 09:15 PM
   Ampicillin - [**2121-12-31**] 04:31 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Morphine Sulfate - [**2121-12-30**] 03:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Pain: No pain / appears comfortable
   Pain location: when asked, denies pain but on further questioning, says
   has ongoing pain "on my side"
   Flowsheet Data as of  [**2121-12-31**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (97
   HR: 79 (67 - 79) bpm
   BP: 102/35(49) {76/12(35) - 113/75(81)} mmHg
   RR: 20 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  6,479 mL
                                                                  2,087 mL
   PO:
                                                                    340 mL
             TF:
   IVF:
                                                                  5,764 mL
                                                                  2,087 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                 10,244 mL
                                                                  3,915 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,765 mL
                                                                 -1,828 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   61 K/uL
   9.2 g/dL
   83 mg/dL
   1.6 mg/dL
   32 mEq/L
   4.3 mEq/L
   9 mg/dL
   98 mEq/L
   140 mEq/L
   26.9 %
   16.3 K/uL
        [image002.jpg]
                             [**2121-12-29**]  05:44 AM
                             [**2121-12-29**]  11:18 AM
                             [**2121-12-29**]  05:09 PM
                             [**2121-12-29**]  11:17 PM
                             [**2121-12-30**]  04:57 AM
                             [**2121-12-30**]  10:03 AM
                             [**2121-12-30**]  03:46 PM
                             [**2121-12-30**]  08:13 PM
                             [**2121-12-30**]  10:14 PM
                             [**2121-12-31**]  04:17 AM
   WBC
   24.2
   17.0
   18.3
   16.1
   16.3
   Hct
   26.5
   24.5
   24.1
   26.5
   26.9
   Plt
   73
   71
   75
   57
   61
   Cr
   2.0
   1.9
   1.9
   1.9
   1.7
   1.8
   1.6
   1.6
   Glucose
   172
   166
   162
   130
   102
   111
   175
   142
   109
   83
   Other labs: PT / PTT / INR:20.4/38.6/1.9, CK / CKMB / Troponin-T:25//,
   ALT / AST:13/25, Alk Phos / T Bili:212/1.1, Differential-Neuts:87.8 %,
   Band:0.0 %, Lymph:4.7 %, Mono:6.6 %, Eos:0.5 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:247 IU/L, Ca++:10.3 mg/dL, Mg++:1.7 mg/dL,
   PO4:1.4 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 ANEMIA, CHRONIC
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 DIABETES MELLITUS (DM), TYPE II
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 IMPAIRED SKIN INTEGRITY
 NEUROPATHY, PERIPHERAL
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PEPTIC ULCER DISEASE (PUD)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 THROMBOCYTOPENIA, CHRONIC
 HYPOTENSION (NOT SHOCK)
   Ms. [**Known lastname 5228**] is a 78 year old female with type 2 DM, ESRD on HD, PVD s/p
   BKA, CAD s/p MI with septic shock
   Vaginal Bleed
   1.       Septic Shock: from MDR Acinetobacter line infection; decubitus
   ulcers may very well be contributing; unclear if there is also tissue
   ischemia from PVD (? In her left arm/hand).
   -          ID input appreciated
   -          Cont vasopressin unti 3pm then attempt to stop, but goal is
   to continue CVVHD
   -          Remaining on Colistin/high-dose Unasyn for Acinetobacter
   bacteremia; surveillance blood cultures negative
   -          Remaining empiric Daptomycin to cover skin/soft tissue
   infections
   -         Metronidazole - C Diff negative x4, CT neg intrabdominal
   access
 STOP today
   -          Plastics role of debridement of decubitus ulcers
 does not
   feel any intervention needed
   -          Hand surgery to evaluate right hand/arm for compartment
   syndrome
 no need for intervention, no compartment
   2.       CKD V on hemodialysis
   -          cont CVVH per renal team; per renal attending, systolics of
   80s are typical for her and we should tolerate this; they feel that she
   still have considerable fluid to take off and that the failure to do so
   will significantly limit her future prospects; therefore we are
   continuing to the extent possible, targeting systolics of 80s and
   making sure that basic mentation, organ function, etc remains intact.
   3.       Sacral/ischial decubitus ulcers
   Plastics feels that there is not currently a role for debridement; we
   should follow these closely and ask them to reassess if she continues
   to have any element of sepsis-like picture
   4.       Anemia; history of chronic GI bleed from AVMs
   -         Continue to transfuse HCT >25 given on CVVHD and will have
   ongoing blood loss
   -         Give one unit of pRBCs
   5.       Heel ulcer/PVD
   -          cont weight-sparing boot; no urgent vascular intervention
   6.       History of HIT
   -          avoid heparin
   7.       DM2
   -          cont insulin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-12-26**] 05:38 PM
   Dialysis Catheter - [**2121-12-26**] 05:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-12-31 11:13:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Vaginal bleeding - u/s non-diagnostic.
   -1.4 L iters since MN.
   Transient SBP tp 70's CVVH to -200/hr, now back up to -300/hr.
   Dapto, flagyl now off.
   Allergies:
   Penicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Colistin - [**2121-12-30**] 10:59 AM
   Daptomycin - [**2121-12-30**] 09:15 PM
   Ampicillin - [**2121-12-31**] 08:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Morphine Sulfate - [**2121-12-31**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-31**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (97
   HR: 83 (67 - 83) bpm
   BP: 93/59(63) {76/12(35) - 113/59(66)} mmHg
   RR: 20 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  6,479 mL
                                                                  3,048 mL
   PO:
                                                                    340 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  5,764 mL
                                                                  2,928 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                 10,244 mL
                                                                  4,988 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,765 mL
                                                                 -1,940 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   61 K/uL
   83 mg/dL
   1.6 mg/dL
   32 mEq/L
   4.3 mEq/L
   9 mg/dL
   98 mEq/L
   140 mEq/L
   26.9 %
   16.3 K/uL
        [image002.jpg]
                             [**2121-12-29**]  05:44 AM
                             [**2121-12-29**]  11:18 AM
                             [**2121-12-29**]  05:09 PM
                             [**2121-12-29**]  11:17 PM
                             [**2121-12-30**]  04:57 AM
                             [**2121-12-30**]  10:03 AM
                             [**2121-12-30**]  03:46 PM
                             [**2121-12-30**]  08:13 PM
                             [**2121-12-30**]  10:14 PM
                             [**2121-12-31**]  04:17 AM
   WBC
   24.2
   17.0
   18.3
   16.1
   16.3
   Hct
   26.5
   24.5
   24.1
   26.5
   26.9
   Plt
   73
   71
   75
   57
   61
   Cr
   2.0
   1.9
   1.9
   1.9
   1.7
   1.8
   1.6
   1.6
   Glucose
   172
   166
   162
   130
   102
   111
   175
   142
   109
   83
   Other labs: PT / PTT / INR:20.4/38.6/1.9, CK / CKMB / Troponin-T:25//,
   ALT / AST:13/25, Alk Phos / T Bili:212/1.1, Differential-Neuts:87.8 %,
   Band:0.0 %, Lymph:4.7 %, Mono:6.6 %, Eos:0.5 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:247 IU/L, Ca++:10.3 mg/dL, Mg++:1.7 mg/dL,
   PO4:1.4 mg/dL
   Assessment and Plan
   Septic Shock -
   Continues on vasopressin alone. Colisitn + unasyn. Aim to run neg. on
   CVVH as long as SBP > 80.
   Concerned re: AB CT showing standing and ? rectal extension of
   infection. Surgery to see today.
   Renal Failure -
   CVVH with -200 to -300 negative again today.
   Further plans as per resident note.
   Thrombocytopenia -
   Verify that all lines are heparin free.
   ICU Care
   Nutrition:
   Comments: Oral Diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2121-12-26**] 05:38 PM
   Dialysis Catheter - [**2121-12-26**] 05:39 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition :ICU
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan, written by Dr. [**Last Name (STitle) **].
   [**Location (un) 5651**]. I would emphasize and add the following points: 78F ESRD, PVD,
   volume overload, GNR sepsis now with falling platelets. R arm pain
   continues; will treat symptomatically for now.
   Exam notable for Tm 96.8 BP 100/50 HR 80 RR 18 with sat 99 on RA. Obese
   female, anxious but NAD> Diminished BS B, distant s1s2. Obese, soft. 3+
   edema. RUE unchanged. Labs notable for WBC 16K, HCT 26, K+ 4.3, Cr 1.7.
   Agree with plan to treat acinetobacter sepsis with unasyn and d/c
   colistin. Continue CVVH with pressor support. Will f/u USG re vaginal
   bleed, but patient is s/p TAH/BSO. CT raises concern of deep pelvic
   infection; will review with colorectal surgery / [**Doctor Last Name 2093**]. Will place
   heprin free PICC in L arm as able and d/c groin line. If this is not
   possible, will need to confirm that groin line is heparin free; if not
   will change over a wire. Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min

2122-01-01 07:46:00 Physician Resident Progress Note
Chief Complaint: sepsis
   24 Hour Events:
   Stopped colistin
   Confirmed with IR that both the dialysis catheter and femoral lines are
   heparin-free
   Reviewed CT abdomen with radiology - patient has uterus which is
   calcified but not abnormal, some cervical thickening but not
   pathologic, no bladder pathology
   Colorectal surgery consult defers further care of ulcer to plastic
   surgery
   Allergies:
   Penicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Colistin - [**2121-12-30**] 10:59 AM
   Daptomycin - [**2121-12-30**] 09:15 PM
   Ampicillin - [**2122-1-1**] 03:54 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2121-12-31**] 04:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**6-3**] ModeratePain location: right arm
   Flowsheet Data as of  [**2122-1-1**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 81 (73 - 87) bpm
   BP: 88/33(42) {75/14(38) - 115/64(72)} mmHg
   RR: 19 (13 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  6,566 mL
                                                                  1,952 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  6,326 mL
                                                                  1,952 mL
   Blood products:
   Total out:
                                                                 11,908 mL
                                                                  3,416 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,342 mL
                                                                 -1,464 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   VBG 7.45/46
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: diffusely
   Extremities: Right: 1+, Left: 1+ -- significantly improved, right arm
   remains painful
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Oriented (to): self, Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   66 K/uL
   9.1 g/dL
   160 mg/dL
   1.7 mg/dL
   32 mEq/L
   4.6 mEq/L
   7 mg/dL
   95 mEq/L
   136 mEq/L
   26.1 %
   15.3 K/uL
         [image002.jpg]
                             [**2121-12-30**]  04:57 AM
                             [**2121-12-30**]  10:03 AM
                             [**2121-12-30**]  03:46 PM
                             [**2121-12-30**]  08:13 PM
                             [**2121-12-30**]  10:14 PM
                             [**2121-12-31**]  04:17 AM
                             [**2121-12-31**]  10:05 AM
                             [**2121-12-31**]  04:05 PM
                             [**2121-12-31**]  10:08 PM
                             [**2122-1-1**]  03:29 AM
   WBC
   18.3
   16.1
   16.3
   14.9
   15.3
   Hct
   24.1
   26.5
   26.9
   27.2
   26.1
   Plt
   75
   57
   61
   63
   66
   Cr
   1.9
   1.7
   1.8
   1.6
   1.6
   1.7
   1.7
   1.7
   Glucose
   102
   111
   175
   142
   109
   83
   148
   172
   160
   Other labs: PT / PTT / INR:20.1/37.3/1.9, CK / CKMB / Troponin-T:25//,
   ALT / AST:[**9-17**], Alk Phos / T Bili:176/1.4, Differential-Neuts:87.8 %,
   Band:0.0 %, Lymph:4.7 %, Mono:6.6 %, Eos:0.5 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:247 IU/L, Ca++:10.7 mg/dL, Mg++:1.6 mg/dL,
   PO4:1.7 mg/dL
   No new culture data
   Assessment and Plan
   Ms. [**Known lastname 5228**] is a 78 year old female with type 2 DM, ESRD on HD, PVD s/p
   BKA, CAD s/p MI with septic shock
   1.       Septic Shock: from MDR Acinetobacter line infection; decubitus
   ulcers may very well be contributing; unclear if there is also tissue
   ischemia from PVD (? In her left arm/hand). Off daptomycin and flagyl
   as c. diff negative and ulcers appear to be not infected. Off Colistin
   -          ID input appreciated
   -          Cont vasopressin unti 3pm then attempt to stop, but goal is
   to continue CVVHD
   -          Remaining on Colistin for Acinetobacter bacteremia;
   surveillance blood cultures negative
   -          Plastics role of debridement of decubitus ulcers
 does not
   feel any intervention needed
   -          Hand surgery to evaluate right hand/arm for compartment
   syndrome
 no need for intervention, no compartment
   -          Consult colorectal surgery re: rectal inflammation on CT and
   ? possible treatment.
   2. Vaginal Clot: could explain hct drift, per report patient s/p
   TAH/BSO, could be evidence of fistula given inflammation seen on CT
   abd/pelvis.
   -          Transvaginal ultrasound with limited views
   -           Review with radiology if anything on CT abd/pelvis that
   could reveal reason for
   -           Trend HCT
   -           Re-eval if blood becomes issue
   3. Right Arm:  there is some steal from AV fistula. No current change
   in management.
   -            neuropathic pain for symptoms
   -           defer to outpatient further management i.e. neurontin
   4.       CKD V on hemodialysis
   -          cont CVVH per renal team; per renal attending, systolics of
   80s are typical for her and we should tolerate this; they feel that she
   still have considerable fluid to take off and that the failure to do so
   will significantly limit her future prospects; therefore we are
   continuing to the extent possible, targeting systolics of 80s and
   making sure that basic mentation, organ function, etc remains intact.
   5.       Sacral/ischial decubitus ulcers
   Plastics feels that there is not currently a role for debridement; we
   should follow these closely and ask them to reassess if she continues
   to have any element of sepsis-like picture
   --- Ask colorectal surgery to comment given soft tissue changes extend
   to rectum
   6.       Anemia; history of chronic GI bleed from AVMs, also vaginal
   bleed, and CVVHD
   -         Continue to transfuse HCT >25 given on CVVHD and will have
   ongoing blood loss
   -         Give one unit of pRBCs
   7.       Heel ulcer/PVD
   -          cont weight-sparing boot; no urgent vascular intervention
   8.       History of HIT
   -          avoid heparin
   9.       DM2
   -          cont insulin
   10.     Thrombocytopenia: worsening, concerned may have occurred at
   about the time of line placement
   -           confirm with IR re: heparinization of line
   -            if heparin line, then would change over wire with
   non-heparinized due to poor access issues
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: fixed and
   sliding scale insulin
   Lines:
   Multi Lumen - [**2121-12-26**] 05:38 PM
   Dialysis Catheter - [**2121-12-26**] 05:39 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: on PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2122-01-01 11:16:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   All lines verified heparin free. Cont. aggressive diuresis yesterday.
   Seen by surgery yesterday - no plans for intervention.
   Allergies:
   Penicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Colistin - [**2121-12-30**] 10:59 AM
   Daptomycin - [**2121-12-30**] 09:15 PM
   Ampicillin - [**2122-1-1**] 08:28 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2121-12-31**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-1**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.3
   HR: 78 (73 - 87) bpm
   BP: 100/30(45) {75/14(36) - 115/64(72)} mmHg
   RR: 18 (13 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  6,566 mL
                                                                  2,966 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  6,326 mL
                                                                  2,966 mL
   Blood products:
   Total out:
                                                                 11,908 mL
                                                                  5,540 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,342 mL
                                                                 -2,574 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: decreased edema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   66 K/uL
   160 mg/dL
   1.7 mg/dL
   32 mEq/L
   4.6 mEq/L
   7 mg/dL
   95 mEq/L
   136 mEq/L
   26.1 %
   15.3 K/uL
        [image002.jpg]
                             [**2121-12-30**]  04:57 AM
                             [**2121-12-30**]  10:03 AM
                             [**2121-12-30**]  03:46 PM
                             [**2121-12-30**]  08:13 PM
                             [**2121-12-30**]  10:14 PM
                             [**2121-12-31**]  04:17 AM
                             [**2121-12-31**]  10:05 AM
                             [**2121-12-31**]  04:05 PM
                             [**2121-12-31**]  10:08 PM
                             [**2122-1-1**]  03:29 AM
   WBC
   18.3
   16.1
   16.3
   14.9
   15.3
   Hct
   24.1
   26.5
   26.9
   27.2
   26.1
   Plt
   75
   57
   61
   63
   66
   Cr
   1.9
   1.7
   1.8
   1.6
   1.6
   1.7
   1.7
   1.7
   Glucose
   102
   111
   175
   142
   109
   83
   148
   172
   160
   Other labs: PT / PTT / INR:20.1/37.3/1.9, CK / CKMB / Troponin-T:25//,
   ALT / AST:[**9-17**], Alk Phos / T Bili:176/1.4, Differential-Neuts:87.8 %,
   Band:0.0 %, Lymph:4.7 %, Mono:6.6 %, Eos:0.5 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.0 g/dL, LDH:247 IU/L, Ca++:10.7 mg/dL, Mg++:1.6 mg/dL,
   PO4:1.7 mg/dL
   Assessment and Plan
   As per resident note. Now on unasyn alone for acinetabacter bacteremia.
   No plans for surgical intervention for decubs. Cont. to diuresis
   aggresively with -300/hr. PT today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-12-26**] 05:38 PM
   Dialysis Catheter - [**2121-12-26**] 05:39 PM
   Comments: IR PICC tomorrow to pull TLC.
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2122-01-02 07:44:00 Physician Resident Progress Note
Chief Complaint: Volume Overload
   Sepsis
   24 Hour Events:
   nearly 30L negative
   Allergies:
   Penicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Colistin - [**2121-12-30**] 10:59 AM
   Daptomycin - [**2121-12-30**] 09:15 PM
   Ampicillin - [**2122-1-2**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**6-3**] ModeratePain location: right arm
   Flowsheet Data as of  [**2122-1-2**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 78 (70 - 87) bpm
   BP: 83/57(62) {78/16(36) - 138/60(78)} mmHg
   RR: 20 (15 - 27) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  6,174 mL
                                                                  2,019 mL
   PO:
             TF:
   IVF:
                                                                  6,174 mL
                                                                  2,019 mL
   Blood products:
   Total out:
                                                                 13,484 mL
                                                                  4,655 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -7,310 mL
                                                                 -2,636 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at bases)
   Abdominal: Soft, Bowel sounds present, Distended, Tender: diffusely
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm, sacral and ischial decubiti stage II, right arm
   increasingly dusky but radial pulse remains dopplerable, right arm
   painful on palpation
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): self, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   75 K/uL
   9.9 g/dL
   121 mg/dL
   1.7 mg/dL
   29 mEq/L
   4.7 mEq/L
   7 mg/dL
   95 mEq/L
   137 mEq/L
   28.8 %
   18.1 K/uL
        [image002.jpg]
                             [**2121-12-30**]  10:14 PM
                             [**2121-12-31**]  04:17 AM
                             [**2121-12-31**]  10:05 AM
                             [**2121-12-31**]  04:05 PM
                             [**2121-12-31**]  10:08 PM
                             [**2122-1-1**]  03:29 AM
                             [**2122-1-1**]  10:38 AM
                             [**2122-1-1**]  05:00 PM
                             [**2122-1-1**]  09:52 PM
                             [**2122-1-2**]  04:49 AM
   WBC
   16.1
   16.3
   14.9
   15.3
   15.7
   18.1
   Hct
   26.5
   26.9
   27.2
   26.1
   26.7
   28.8
   Plt
   57
   61
   63
   66
   63
   75
   Cr
   1.6
   1.6
   1.7
   1.7
   1.7
   1.7
   1.8
   1.7
   Glucose
   109
   83
   148
   172
   160
   71
   247
   152
   121
   Other labs: PT / PTT / INR:19.5/36.2/1.8, CK / CKMB / Troponin-T:25//,
   ALT / AST:[**9-16**], Alk Phos / T Bili:182/1.4, Differential-Neuts:87.8 %,
   Band:0.0 %, Lymph:4.7 %, Mono:6.6 %, Eos:0.5 %, Lactic Acid:2.3 mmol/L,
   Albumin:2.0 g/dL, LDH:247 IU/L, Ca++:12.3 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.3 mg/dL
   No new culture data
   Assessment and Plan
   Ms. [**Known lastname 5228**] is a 78 year old female with type 2 DM, ESRD on HD, PVD s/p
   BKA, CAD s/p MI with septic shock
   1.       Septic Shock: from MDR Acinetobacter line infection; decubitus
   ulcers may very well be contributing; unclear if there is also tissue
   ischemia from PVD (? In her left arm/hand). Off daptomycin and flagyl
   as c. diff negative and ulcers appear to be not infected. Off Colistin
   -          ID input appreciated
   -          CVVHD stopping
 try to wean/stop vasopressin
   -          Remaining on high dose Unasyn for Acinetobacter bacteremia;
   surveillance blood cultures negative
   -          Plastics role of debridement of decubitus ulcers
 does not
   feel any intervention needed
   -          Hand surgery to evaluate right hand/arm for compartment
   syndrome
 no need for intervention, no compartment
   -          Consult colorectal surgery feels no indication for surgical
   intervention
   2. Vaginal Clot: could explain hct drift, per report patient s/p
   TAH/BSO, but patient has uterus on CT scan
 nothing pathologic.
   Transvaginal ultrasound with limited views
   -           Trend HCT
   -           Re-eval if blood loss becomes issue
   3. Right Arm:  there is some steal from AV fistula. No current change
   in management. Neuropathic pain.
   -            continue current pain meds
   -           defer to outpatient further management i.e. neurontin
   4.       CKD V on hemodialysis
   -          patient negative 30L on CVVHD. Patient is felt to be near
   her dry weight. Patient will hold on CVVHD for now. Given patient has
   tenuous pressures this may need to be restarted if she does not
   tolerate HD.
   - appreciate renal recs
   5.       Sacral/ischial decubitus ulcers
   Plastics feels that there is not currently a role for debridement; we
   should follow these closely and ask them to reassess if she continues
   to have any element of sepsis-like picture
   6.       Anemia; history of chronic GI bleed from AVMs, also vaginal
   bleed, and CVVHD
   -         Continue to transfuse HCT >25 given on CVVHD and will have
   ongoing blood loss
   -         Give one unit of pRBCs
   7.       Heel ulcer/PVD
   -          cont weight-sparing boot; no urgent vascular intervention
   8.       History of HIT
   -          avoid heparin
   9.       DM2
   -          cont insulin
   10.     Thrombocytopenia: stable,  no heparin lines, has a history of
   thrombocytopenia.
   ICU Care
   Nutrition: PO diabetic diet
   Glycemic Control:  fixed and sliding insulin scale
   Lines:
   Multi Lumen - [**2121-12-26**] 05:38 PM
   Dialysis Catheter - [**2121-12-26**] 05:39 PM
   Prophylaxis:
   DVT:  pneumoboot, no heparin, has HIT
   Stress ulcer:  on PPI
   VAP:  not intubated
   Comments:
   Communication:  sister
   [**Name (NI) 66**] status: DNR/DNI
   Disposition: ICU, given pressor requirement

2122-01-02 10:02:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Now 31L negative for length of stay.
   Now off vasopressin.
   Allergies:
   Penicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Colistin - [**2121-12-30**] 10:59 AM
   Daptomycin - [**2121-12-30**] 09:15 PM
   Ampicillin - [**2122-1-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Dialysis
   Flowsheet Data as of  [**2122-1-2**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 83 (70 - 87) bpm
   BP: 85/20(37) {78/16(36) - 138/60(78)} mmHg
   RR: 22 (15 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.6 kg (admission): 112.5 kg
             Total In:
                                                                  6,238 mL
                                                                  2,394 mL
   PO:
             TF:
   IVF:
                                                                  6,238 mL
                                                                  2,394 mL
   Blood products:
   Total out:
                                                                 13,484 mL
                                                                  5,113 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -7,246 mL
                                                                 -2,720 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   75 K/uL
   121 mg/dL
   1.7 mg/dL
   29 mEq/L
   4.7 mEq/L
   7 mg/dL
   95 mEq/L
   137 mEq/L
   28.8 %
   18.1 K/uL
        [image002.jpg]
                             [**2121-12-30**]  10:14 PM
                             [**2121-12-31**]  04:17 AM
                             [**2121-12-31**]  10:05 AM
                             [**2121-12-31**]  04:05 PM
                             [**2121-12-31**]  10:08 PM
                             [**2122-1-1**]  03:29 AM
                             [**2122-1-1**]  10:38 AM
                             [**2122-1-1**]  05:00 PM
                             [**2122-1-1**]  09:52 PM
                             [**2122-1-2**]  04:49 AM
   WBC
   16.1
   16.3
   14.9
   15.3
   15.7
   18.1
   Hct
   26.5
   26.9
   27.2
   26.1
   26.7
   28.8
   Plt
   57
   61
   63
   66
   63
   75
   Cr
   1.6
   1.6
   1.7
   1.7
   1.7
   1.7
   1.8
   1.7
   Glucose
   109
   83
   148
   172
   160
   71
   247
   152
   121
   Other labs: PT / PTT / INR:19.5/36.2/1.8, CK / CKMB / Troponin-T:25//,
   ALT / AST:[**9-16**], Alk Phos / T Bili:182/1.4, Differential-Neuts:87.8 %,
   Band:0.0 %, Lymph:4.7 %, Mono:6.6 %, Eos:0.5 %, Lactic Acid:2.3 mmol/L,
   Albumin:2.0 g/dL, LDH:247 IU/L, Ca++:12.3 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   Now euvolemic. Will t/b with renal re: end point of CVVH. Running even
   for now.
 Bacteremia  - unasyn alone now. Course per ID.
   Hypotension
 Weaning off vasopressin, titrating for SBP > 80. Will
   start midodrine to allow transition to HD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-12-26**] 05:38 PM
   Dialysis Catheter - [**2121-12-26**] 05:39 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2122-01-03 08:39:00 Physician Resident Progress Note
Chief Complaint: sepsis
   24 Hour Events:
 MULTI LUMEN - STOP [**2122-1-2**] 06:02 PM
 PICC LINE - START [**2122-1-2**] 06:35 PM
   Double lumen Non Heparin PICC line placed in IR with 4cm left outside
   the skin.
   Started midodrine to help wean pressures
   Oif warming blanket
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Ampicillin - [**2122-1-3**] 08:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**1-29**] mild location: right arm
   Flowsheet Data as of  [**2122-1-3**] 08:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 67 (57 - 94) bpm
   BP: 89/51(60) {69/15(31) - 114/56(66)} mmHg
   RR: 24 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 78.6 kg (admission): 112.5 kg
             Total In:
                                                                  3,809 mL
                                                                    340 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                  2,969 mL
                                                                    340 mL
   Blood products:
   Total out:
                                                                  5,413 mL
                                                                    500 mL
   Urine:
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,604 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse: Not
   assessed), s/p L BKA, right arm dusky
 necrotic ulcerations on
   fingers, pain diminished, patient able to move
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: diffusely, Obese
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm, sacral, ischial decubiti
 escar falling off with wound
   care reveals stage III at sacrum
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self, location Movement: Not assessed, Tone:
   Decreased
   Labs / Radiology
   66 K/uL
   8.6 g/dL
   63 mg/dL
   2.6 mg/dL
   29 mEq/L
   4.9 mEq/L
   14 mg/dL
   94 mEq/L
   136 mEq/L
   25.5 %
   15.9 K/uL
        [image002.jpg]
                             [**2121-12-31**]  04:17 AM
                             [**2121-12-31**]  10:05 AM
                             [**2121-12-31**]  04:05 PM
                             [**2121-12-31**]  10:08 PM
                             [**2122-1-1**]  03:29 AM
                             [**2122-1-1**]  10:38 AM
                             [**2122-1-1**]  05:00 PM
                             [**2122-1-1**]  09:52 PM
                             [**2122-1-2**]  04:49 AM
                             [**2122-1-3**]  04:31 AM
   WBC
   16.3
   14.9
   15.3
   15.7
   18.1
   15.9
   Hct
   26.9
   27.2
   26.1
   26.7
   28.8
   25.5
   Plt
   61
   63
   66
   63
   75
   66
   Cr
   1.6
   1.7
   1.7
   1.7
   1.7
   1.8
   1.7
   2.6
   Glucose
   83
   148
   172
   160
   71
   247
   152
   121
   63
   Other labs: PT / PTT / INR:19.5/38.3/1.8, CK / CKMB / Troponin-T:25//,
   ALT / AST:[**6-13**], Alk Phos / T Bili:155/1.4, Differential-Neuts:87.8 %,
   Band:0.0 %, Lymph:4.7 %, Mono:6.6 %, Eos:0.5 %, Lactic Acid:2.3 mmol/L,
   Albumin:2.0 g/dL, LDH:247 IU/L, Ca++:9.6 mg/dL, Mg++:1.5 mg/dL, PO4:2.8
   mg/dL
   No new culture data
   Assessment and Plan
   Ms. [**Known lastname 5228**] is a 78 year old female with type 2 DM, ESRD on HD, PVD s/p
   BKA, CAD s/p MI with septic shock
   1.       Septic Shock: from MDR Acinetobacter line infection; decubitus
   ulcers may very well be contributing; unclear if there is also tissue
   ischemia from PVD (? In her left arm/hand). Off daptomycin and flagyl
   as c. diff negative and ulcers appear to be not infected. Off Colistin.
   Remaining on high dose Unasyn for Acinetobacter bacteremia;
   surveillance blood cultures negative. Plastics does not feel any
   intervention needed on decubitus ulcers.  Hand surgery  no need for
   intervention, no compartment syndrome in right arm/hand. Colorectal
   surgery feels no indication for surgical intervention
   -          ID input appreciated on length of unasyn course for
   bacteremia
   -          Off CVVHD, trying to stop vasopressin -- added midodrine
   yesterday
   2. Right Arm:  there is some steal from AV fistula. No current change
   in management. Neuropathic pain improved.
   -            continue current pain meds
   -           defer to outpatient further management i.e. neurontin
   3.       CKD V on hemodialysis. Patient negative 30L on CVVHD. Patient
   is felt to be near her dry weight. Patient will hold on CVVHD for now.
   Given patient has tenuous pressures this may need to be restarted if
   she does not tolerate HD.
   -             appreciate renal recs
   -             On midodrine for pressures, will stop vasopressin
   5.       Sacral/ischial decubitus ulcers
   Plastics feels that there is not currently a role for debridement;
   continue with aggressive wound care
   6.       Anemia; history of chronic GI bleed from AVMs, also vaginal
   bleed, and CVVHD.  Patient with uterus and cervix, but CT scan and
   transvaginal with limited views show no pathologic features.
   -         Continue to transfuse HCT >25
   -         Monitor for sign vaginal or GI bleeding
   7.       Heel ulcer/PVD
   -          cont weight-sparing boot; no urgent vascular intervention
   8.       History of HIT
   -          avoid heparin
   9.       DM2
   -          cont insulin
 readjust fixed evening dose downward given
   low BG this am
   10.Thrombocytopenia: stable, no heparin lines, has a history of
   thrombocytopenia.
   11. Elevated INR: likely nutritional, vitamin K 5mg PO * 3 days
   ICU Care
   Nutrition:
   Comments: PO diabetic diet
   Glycemic Control:  Comments: fixed and sliding scale
   Lines:
   Dialysis Catheter - [**2121-12-26**] 05:39 PM
   PICC Line - [**2122-1-2**] 06:35 PM
   Prophylaxis:
   DVT: Cannot wear boot b/c has BP cuff on that leg.
   Stress ulcer: PPI
   VAP:
   Comments: not intubated
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2122-01-04 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2122-1-3**] 02:50 PM
   Redosed unasyn for renal dosing; today is day 10, which was originally
   defined stopping point
   Stopped pressors yesterday; now borderline hypertensive
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsPenicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Ampicillin - [**2122-1-3**] 08:09 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-1-3**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies pain. Feeling comfortable when I saw her this AM. Breathing
   fine.
   Flowsheet Data as of  [**2122-1-4**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 80 (45 - 80) bpm
   BP: 140/20(35) {61/14(33) - 142/92(167)} mmHg
   RR: 23 (16 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.5 kg (admission): 112.5 kg
             Total In:
                                                                  1,433 mL
                                                                    198 mL
   PO:
                                                                    700 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    733 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -567 mL
                                                                    198 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL
   HEENT: Oropharynx: dry, chronically dry-appearing tongue, no lesions in
   limited exam
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: Warm extremities; left AKA; right DP
   Respiratory / Chest: (Breath Sounds: Clear on anterior exam )
   Abdominal: Soft, Non-tender, Distended
   Skin:  Large decubitus ulcer with signif eschar, probes to fascial
   layer below but no bone seen; plastics to see
   Neurologic: Oriented to
Hospital
 and
[**Location (un) 223**]
 but not season or year
   Labs / Radiology
   61 K/uL
   9.7 g/dL
   92
   2.5 mg/dL
   26 mEq/L
   4.3 mEq/L
   15 mg/dL
   95 mEq/L
   133 mEq/L
   28.5 %
   15.5 K/uL
        [image002.jpg]
                             [**2121-12-31**]  10:08 PM
                             [**2122-1-1**]  03:29 AM
                             [**2122-1-1**]  10:38 AM
                             [**2122-1-1**]  05:00 PM
                             [**2122-1-1**]  09:52 PM
                             [**2122-1-2**]  04:49 AM
                             [**2122-1-3**]  04:31 AM
                             [**2122-1-3**]  07:48 PM
                             [**2122-1-4**]  04:07 AM
                             [**2122-1-4**]  06:00 AM
   WBC
   15.3
   15.7
   18.1
   15.9
   15.5
   Hct
   26.1
   26.7
   28.8
   25.5
   28.5
   Plt
   66
   63
   75
   66
   61
   Cr
   1.7
   1.7
   1.8
   1.7
   2.6
   2.2
   2.5
   Glucose
   172
   160
   71
   247
   152
   121
   63
   96
   79
   92
   Other labs: PT / PTT / INR:19.6/39.0/1.8, CK / CKMB / Troponin-T:25//,
   ALT / AST:[**6-13**], Alk Phos / T Bili:155/1.4, Differential-Neuts:86.8 %,
   Band:0.0 %, Lymph:6.4 %, Mono:5.9 %, Eos:0.4 %, Lactic Acid:2.3 mmol/L,
   Albumin:2.0 g/dL, LDH:247 IU/L, Ca++:7.9 mg/dL, Mg++:1.4 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   Significant decub ulcer discussed in past notes, likely [**3-1**] diffuse
   edema and immobility; plastics is following and is coming to see this
   AM. Consider empiric tx for osteo.
    [discussed after rounds: plastics debrided to find significant fat
   necrosis and believes that we have to presume osteo given extent of
   ulceration and proximity to bone, though periosteum was intact. Will
   order Ceftaz+vanco for coverage, ID approved this and will come
   tomorrow to consider whether narrower coverage is possible.]
   - continue careful wound care
   - have appreciated plastics and gen [**Doctor First Name 458**] input on mgmt
   - optimize nutrition for healing
 DIABETES MELLITUS (DM), TYPE II
   Range of glucose values, had some low points on NPH; for now, taking
   out NPH and following with sliding scale, reassess baseline dose;
   decreased requirement promising in terms of infection progress
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   Denied pain on my exam this AM. Continue tx as prior.
 ANEMIA, CHRONIC
   Stable. Up and down with fluid shifts and dialysis but within same
   range. No acute bleed.
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   Appreciate renal recs. Moving from CVVH to HD; HD will now be on
   Sat/Tues/Thurs schedule.
 HYPOTENSION (NOT SHOCK)
   Tolerating SBPs in 80s, her baseline; avoiding fluid boluses given
   difficulty in getting fluid off.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
see above
   Lines:
   Dialysis Catheter - [**2121-12-26**] 05:39 PM
   PICC Line - [**2122-1-2**] 06:35 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: c/o to floor tomorrow ? in ICU today

2122-01-05 07:50:00 Physician Resident Progress Note
Chief Complaint: septic shock
   24 Hour Events:
   Plastics examined and extensively debrided sacral decubitus ulcer,
   which had large regions of fat necrosis (tolerated entirely without
   anesthesia by Ms [**Known lastname 5228**])
   Started ceftaz+vanco for coverage of osteomyelitis as plastics
   suggested osteo should be presumed; ID to provide input
   Continuing to tolerate low BP
   Talked to nutrition re wound healing, poor intake; they will increase
   protein content of shakes (had been low-protein renal diet); rec'd
   nephrocaps (ordered)
   Allergies:
   Penicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Ampicillin - [**2122-1-3**] 08:09 PM
   Ceftazidime - [**2122-1-4**] 04:00 PM
   Vancomycin - [**2122-1-4**] 04:36 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-1-4**] 08:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortablePain location: c/o of pain with
   inflation of bp cuff intermittent
   Flowsheet Data as of  [**2122-1-5**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96.1
   HR: 69 (60 - 82) bpm
   BP: 70/39(47) {64/17(37) - 141/94(144)} mmHg
   RR: 21 (8 - 30) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.5 kg (admission): 112.5 kg
             Total In:
                                                                  1,619 mL
                                                                    257 mL
   PO:
                                                                  1,080 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    539 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                  1,369 mL
                                                                    257 mL
   Respiratory support
   SpO2: 96%
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Tender:
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm, Rash: right arm remains with ischemic blisters, less
   tender. Sacral and ischial decubiti
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self, location, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   79 K/uL
   9.0 g/dL
   114 mg/dL
   3.3 mg/dL
   25 mEq/L
   4.7 mEq/L
   22 mg/dL
   91 mEq/L
   128 mEq/L
   26.7 %
   14.2 K/uL
         [image002.jpg]
                             [**2122-1-1**]  03:29 AM
                             [**2122-1-1**]  10:38 AM
                             [**2122-1-1**]  05:00 PM
                             [**2122-1-1**]  09:52 PM
                             [**2122-1-2**]  04:49 AM
                             [**2122-1-3**]  04:31 AM
                             [**2122-1-3**]  07:48 PM
                             [**2122-1-4**]  04:07 AM
                             [**2122-1-4**]  06:00 AM
                             [**2122-1-5**]  05:10 AM
   WBC
   15.3
   15.7
   18.1
   15.9
   15.5
   14.2
   Hct
   26.1
   26.7
   28.8
   25.5
   28.5
   26.7
   Plt
   66
   63
   75
   66
   61
   79
   Cr
   1.7
   1.7
   1.8
   1.7
   2.6
   2.2
   2.5
   3.3
   Glucose
   160
   71
   247
   152
   121
   63
   96
   79
   92
   114
   Other labs: PT / PTT / INR:18.8/38.1/1.7, CK / CKMB / Troponin-T:25//,
   ALT / AST:[**6-13**], Alk Phos / T Bili:155/1.4, Differential-Neuts:86.8 %,
   Band:0.0 %, Lymph:6.4 %, Mono:5.9 %, Eos:0.4 %, Lactic Acid:2.3 mmol/L,
   Albumin:1.8 g/dL, LDH:247 IU/L, Ca++:7.4 mg/dL, Mg++:1.4 mg/dL, PO4:2.8
   mg/dL
   [**1-2**] Right femoral groin line: growing yeast from catheter tip
   Assessment and Plan
   Ms. [**Known lastname 5228**] is a 78 year old female with type 2 DM, ESRD on HD, PVD s/p
   BKA, CAD s/p MI with septic shock, volume overload
   1. Sacral /ischial decubiti: plastics debrided sacral ulcer. Given rise
   in ESR from 55 to 109, will treat for presumptive osteomyelitis.
   - Appreciate ID recs
   - Cont Vanc/Ceftaz  -- monitor for ESR trend, consider empiric 2 week
   course, unless plastics plans definitive surgical intervention
   - Plastics following
   - Reculture blood
   2. Yeast from Right Groin Line: unclear significance, no change in
   patient
s mental status, blood pressure.
   - Reculture blood
   - F/U speciation from right groin line
   3. Hypotension: per renal patient at baseline, mentates well with
   measured SBP high 70s low 80s , suspect bad PVD preventing accurate
   measurement of true BP
   - cont midodrine, cont to monitor
   4. CKD V on hemodialysis. Patient negative 30L on CVVHD. Patient is
   felt to be near her dry weight. Patient will hold on CVVHD for now.
   Given patient has tenuous pressures this may need to be restarted if
   she does not tolerate HD. Patient has tolerated HD.
   -  appreciate renal recs
   -  on midodrine for pressures
   - on HD
   5.  Septic Shock: RESOLVED from MDR Acinetobacter line infection. Had
   initially been treated empirically with Daptomycin, Colistin, Flagyl
   and Unasyn. Patient Daptomycin and Flagyl was discontinued in setting
   of no GPCs in blood cultures, AND negative c. diff.  Patient
   acinetobacter coverage narrowed to high dose Unasyn for 14 day course.
    - high dose Unasyn for 14 days, last day [**1-8**]
   6. Right Arm:  there is some steal from AV fistula. No current change
   in management. Neuropathic pain improved. Hand surgery feels there is
   no surgical intervention.
   -            continue current pain meds
   -           defer to outpatient further management i.e. neurontin
   7. Anemia; history of chronic GI bleed from AVMs, also vaginal bleed,
   and CVVHD.  Patient with uterus and cervix, but CT scan and
   transvaginal with limited views show no pathologic features.
   -         Continue to transfuse HCT >25
   -         Monitor for sign vaginal or GI bleeding
   7. Heel ulcer/PVD
   -          cont weight-sparing boot; no urgent vascular intervention
   8. History of HIT
   -          avoid heparin
   9. DM2
   -          cont sliding scale insulin, stopped fixed in setting of low
   BG.
   10.Thrombocytopenia: stable, no heparin lines, has a history of
   thrombocytopenia.
   11. Elevated INR: likely nutritional, vitamin K 5mg PO * 3 days
   ICU Care
   Nutrition: PO diet, f/u nutrition recs
   Glycemic Control: sliding scale insulin
   Lines:
   Dialysis Catheter - [**2121-12-26**] 05:39 PM
   PICC Line - [**2122-1-2**] 06:35 PM
   Prophylaxis:
   DVT: (unable to wear boot as blood pressure cuff on right leg, has L
   BKA)
   Stress ulcer: PPI
   VAP:  not intubated
   Communication: Patient discussed on interdisciplinary rounds
   Code status: DNR / DNI
   Disposition:ICU, possible floor call out depending upon nursing
   requirements
   - PT consult
 no limitations in mvmt based on ulcers per plastics
   - rehab screen

2122-01-05 10:51:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted below.
   HPI:
   See previous notes for details, briefly 70 y/o woman with ESRD admitted
   with hypotension, anasarca, now s/p CVVH with 30 L off. Course c/b
   acinetobacter bacteremia and presumed osteo underlying sacral decub
   (preexisting).
   24 Hour Events:
   Sacral decub debrided yesterday. Started in ceftaz and vanco for
   presumed osteo.
   Over weekend, tolerated HD without pressors.
   Allergies:
   Penicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Ampicillin - [**2122-1-3**] 08:09 PM
   Ceftazidime - [**2122-1-4**] 04:00 PM
   Vancomycin - [**2122-1-4**] 04:36 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Flowsheet Data as of  [**2122-1-5**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.7
C (96.2
   HR: 71 (60 - 82) bpm
   BP: 79/23(30) {64/17(30) - 141/94(144)} mmHg
   RR: 17 (8 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.5 kg (admission): 112.5 kg
             Total In:
                                                                  1,619 mL
                                                                    286 mL
   PO:
                                                                  1,080 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    539 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                  1,369 mL
                                                                    286 mL
   Respiratory support
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Alert.
   UE warm
   Pulses + with doppler
   Lungs CTAB-ant
   S1S2 no m/r/g
   Labs / Radiology
   9.0 g/dL
   79 K/uL
   114 mg/dL
   3.3 mg/dL
   25 mEq/L
   4.7 mEq/L
   22 mg/dL
   91 mEq/L
   128 mEq/L
   26.7 %
   14.2 K/uL
        [image002.jpg]
                             [**2122-1-1**]  03:29 AM
                             [**2122-1-1**]  10:38 AM
                             [**2122-1-1**]  05:00 PM
                             [**2122-1-1**]  09:52 PM
                             [**2122-1-2**]  04:49 AM
                             [**2122-1-3**]  04:31 AM
                             [**2122-1-3**]  07:48 PM
                             [**2122-1-4**]  04:07 AM
                             [**2122-1-4**]  06:00 AM
                             [**2122-1-5**]  05:10 AM
   WBC
   15.3
   15.7
   18.1
   15.9
   15.5
   14.2
   Hct
   26.1
   26.7
   28.8
   25.5
   28.5
   26.7
   Plt
   66
   63
   75
   66
   61
   79
   Cr
   1.7
   1.7
   1.8
   1.7
   2.6
   2.2
   2.5
   3.3
   Glucose
   160
   71
   247
   152
   121
   63
   96
   79
   92
   114
   Other labs: PT / PTT / INR:18.8/38.1/1.7, CK / CKMB / Troponin-T:25//,
   ALT / AST:[**6-13**], Alk Phos / T Bili:155/1.4, Differential-Neuts:86.8 %,
   Band:0.0 %, Lymph:6.4 %, Mono:5.9 %, Eos:0.4 %, Lactic Acid:2.3 mmol/L,
   Albumin:1.8 g/dL, LDH:247 IU/L, Ca++:7.4 mg/dL, Mg++:1.4 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
          Renal Failure - tolerated HD over the weekend.
          s/p agressive volume removal with CVVH
          Sacral Decub: s/p debridement. ? underlying osteo. Vanc +
   ceftz for now. ID to re-consult for regimen/course.
          Acinetibacter Sepsis: Unasyn x 14days (today is [**1-11**])
          Hypotension/severe vasculopathy : Resolved. Baseline NIBP
   ~80 [**3-1**] widespread peripheral vascular disease.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2121-12-26**] 05:39 PM
   PICC Line - [**2122-1-2**] 06:35 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor

2122-01-06 07:52:00 Physician Resident Progress Note
Chief Complaint: Pressure ulcers in setting of massive edema, edema now
   resolving s/p CVVH
   24 Hour Events:
 BLOOD CULTURED - At [**2122-1-5**] 12:23 PM
   Has bed at [**Hospital 12**] Rehab for Tues [**1-6**] (today) after dialysis; will then
   be switched to MWF schedule once at rehab
   Hyponatremia due to volume
   Allergies:
   Penicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Ampicillin - [**2122-1-3**] 08:09 PM
   Ceftazidime - [**2122-1-4**] 04:00 PM
   Vancomycin - [**2122-1-4**] 04:36 PM
   Ampicillin/Sulbactam (Unasyn) - [**2122-1-5**] 06:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2122-1-5**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-6**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.6
C (96
   HR: 68 (60 - 79) bpm
   BP: 109/47(63) {78/11(30) - 175/139(122)} mmHg
   RR: 20 (8 - 27) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.5 kg (admission): 112.5 kg
             Total In:
                                                                  1,000 mL
                                                                    128 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                    340 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    400 mL
                                                                    128 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   74 K/uL
   8.9 g/dL
   115 mg/dL
   3.9 mg/dL
   25 mEq/L
   4.7 mEq/L
   28 mg/dL
   90 mEq/L
   127 mEq/L
   25.8 %
   13.6 K/uL
        [image002.jpg]
                             [**2122-1-1**]  10:38 AM
                             [**2122-1-1**]  05:00 PM
                             [**2122-1-1**]  09:52 PM
                             [**2122-1-2**]  04:49 AM
                             [**2122-1-3**]  04:31 AM
                             [**2122-1-3**]  07:48 PM
                             [**2122-1-4**]  04:07 AM
                             [**2122-1-4**]  06:00 AM
                             [**2122-1-5**]  05:10 AM
                             [**2122-1-6**]  03:48 AM
   WBC
   15.7
   18.1
   15.9
   15.5
   14.2
   13.6
   Hct
   26.7
   28.8
   25.5
   28.5
   26.7
   25.8
   Plt
   63
   75
   66
   61
   79
   74
   Cr
   1.7
   1.8
   1.7
   2.6
   2.2
   2.5
   3.3
   3.9
   Glucose
   71
   247
   152
   121
   63
   96
   79
   92
   114
   115
   Other labs: PT / PTT / INR:19.1/37.9/1.8, CK / CKMB / Troponin-T:25//,
   ALT / AST:[**6-13**], Alk Phos / T Bili:155/1.4, Differential-Neuts:86.8 %,
   Band:0.0 %, Lymph:6.4 %, Mono:5.9 %, Eos:0.4 %, Lactic Acid:2.3 mmol/L,
   Albumin:1.8 g/dL, LDH:247 IU/L, Ca++:7.1 mg/dL, Mg++:1.4 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   [Barring further complications, Ms [**Known lastname 5228**] will be discharged today.
   This assessment and plan describes her hospital course and
   recommendations for further care and will be included in the discharge
   summary.
   Ms. [**Known lastname 5228**] is a 78 year old female with type 2 DM, ESRD on HD, PVD s/p
   BKA, CAD s/p MI with septic shock, volume overload.
   .
   1.  Septic Shock: Resolved from MDR Acinetobacter line infection. Had
   initially been treated empirically with Daptomycin, Colistin, Flagyl
   and Unasyn. Patient Daptomycin and Flagyl was discontinued in setting
   of no GPCs in blood cultures, AND negative c. diff.  Patient
   acinetobacter coverage narrowed to high dose Unasyn for 14 day course.
   She should continue this Unasyn for 14 days, day 1=[**12-25**], complete at
   end of day on [**1-7**].
   .
   2. Hypotension: Per renal, the patient is at baseline and mentates well
   with measured SBP high 70s low 80s; suspect bad PVD preventing accurate
   measurement of true BP. We initiated midodrine and this was continued
   for discharge.
   .
   3. Sacral /ischial decubiti: plastics debrided sacral ulcer. Given rise
   in ESR from 55 to 109, treating for presumptive osteomyelitis. Continue
   Vanc/Ceftaz for a two-week course and monitor ESR, unless plastics
   plans definitive surgical intervention. If ESR persists high, discuss
   continuation of antibiotics with Plastics.  Plastics follow-up
   appointment pending. She should have follow-up in 2 weeks.
   .
   4. Yeast from Right Groin Line: this is of unclear significance, as
   there was no change in patient
s mental status, blood pressure. Blood
   cultures more recently are still pending, will need follow-up.
   .
   5. CKD V on hemodialysis. Patient negative 30L on CVVHD. Patient is
   felt to be near her dry weight. Patient will hold on CVVHD for now.
   Given patient has tenuous pressures this may need to be restarted if
   she does not tolerate HD. Patient has tolerated HD. Continuing
   midodrine as above.
   .
   6. Right Arm Pain: There is some steal from AV fistula. No current
   change in management. Neuropathic pain improved. Hand surgery feels
   there is no surgical intervention. She does have good radial pulse
   currently. Further consideration of neurontin or other treatments may
   be appropriate after discharge.
   .
   7. Anemia; history of chronic GI bleed from AVMs, also vaginal bleed,
   and CVVHD.  Patient with uterus and cervix, but CT scan and
   transvaginal with limited views show no pathologic features. We
   targeted a Hct of 25 for transfusion and recommend follow-up monitoring
   for signs of vaginal or GI bleeding.
   .
   8. Heel ulcer/PVD: Continued weight-sparing boot; no urgent vascular
   intervention.
   .
   8. History of HIT: Heparin was avoided and heparin-free lines only were
   used.
   .
   9. DM2: We continued sliding scale insulin, stopped fixed dose 70/30 in
   setting of low blood glucose.
   10.Thrombocytopenia: stable, no heparin lines, has a history of
   thrombocytopenia.
   11. Elevated INR: likely nutritional, vitamin K 5mg PO * 3 days
   ICU Care
   Nutrition:
   Comments: Taking POs
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2121-12-26**] 05:39 PM  --this needs to be pulled
   prior to discharge, renal to do this
   PICC Line - [**2122-1-2**] 06:35 PM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer:  ppi
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition:Transfer to rehab / long term care facility

2122-01-06 10:58:00 Physician Attending Progress Note
Chief Complaint: Renal Failure , Anasarca
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted below.
   HPI:
   Admitted to the MICU with gross volume overload. Now -30 L s/p CVVH and
   tolerating HD. Other issues include severe PVD, presumed osteo
   underlying sacral decub.
   24 Hour Events:
 BLOOD CULTURED - At [**2122-1-5**] 12:23 PM
   Allergies:
   Penicillins
   Rash;  Swelling
   Codeine
   Wheezing; Short
   Heparin Agents
   Thrombocytopeni
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Ampicillin - [**2122-1-3**] 08:09 PM
   Ceftazidime - [**2122-1-4**] 04:00 PM
   Vancomycin - [**2122-1-4**] 04:36 PM
   Ampicillin/Sulbactam (Unasyn) - [**2122-1-5**] 06:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2122-1-5**] 05:00 PM
   Other medications:
   Changes to medical and family history: none.
   Review of systems: Review of systems is unchanged from admission except
   as noted below
   Flowsheet Data as of  [**2122-1-6**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.6
C (96
   HR: 66 (60 - 79) bpm
   BP: 71/40(46) {71/11(30) - 175/139(122)} mmHg
   RR: 16 (8 - 27) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.5 kg (admission): 112.5 kg
             Total In:
                                                                  1,000 mL
                                                                    458 mL
   PO:
                                                                    660 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    340 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    400 mL
                                                                    458 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   74 K/uL
   115 mg/dL
   3.9 mg/dL
   25 mEq/L
   4.7 mEq/L
   28 mg/dL
   90 mEq/L
   127 mEq/L
   25.8 %
   13.6 K/uL
        [image002.jpg]
                             [**2122-1-1**]  10:38 AM
                             [**2122-1-1**]  05:00 PM
                             [**2122-1-1**]  09:52 PM
                             [**2122-1-2**]  04:49 AM
                             [**2122-1-3**]  04:31 AM
                             [**2122-1-3**]  07:48 PM
                             [**2122-1-4**]  04:07 AM
                             [**2122-1-4**]  06:00 AM
                             [**2122-1-5**]  05:10 AM
                             [**2122-1-6**]  03:48 AM
   WBC
   15.7
   18.1
   15.9
   15.5
   14.2
   13.6
   Hct
   26.7
   28.8
   25.5
   28.5
   26.7
   25.8
   Plt
   63
   75
   66
   61
   79
   74
   Cr
   1.7
   1.8
   1.7
   2.6
   2.2
   2.5
   3.3
   3.9
   Glucose
   71
   247
   152
   121
   63
   96
   79
   92
   114
   115
   Other labs: PT / PTT / INR:19.1/37.9/1.8, CK / CKMB / Troponin-T:25//,
   ALT / AST:[**6-13**], Alk Phos / T Bili:155/1.4, Differential-Neuts:86.8 %,
   Band:0.0 %, Lymph:6.4 %, Mono:5.9 %, Eos:0.4 %, Lactic Acid:2.3 mmol/L,
   Albumin:1.8 g/dL, LDH:247 IU/L, Ca++:7.1 mg/dL, Mg++:1.4 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   78 year old woman with extensive vascular disease, ESRD on HD.
   Renal Failure - now tolerating HD
   Osteo - [**3-1**] sacral decub. vanc/ceftaz x 2 weeks per ID
   Acinetobacter Bactermia - [**3-1**] line infection. Now on Unasyn alone for
   total 2 week course.
   Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2121-12-26**] 05:39 PM
   PICC Line - [**2122-1-2**] 06:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Was critical ill with renal failure, hypotension. Now resolved.
   Disposition : Plan to DC to LTAC today.
   Total time spent: 30 minutes